2201-06-23 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2201-6-22**] 07:20 PM
 BLOOD CULTURED - At [**2201-6-22**] 07:30 PM
   BC x1 from PICC
 EKG - At [**2201-6-22**] 10:00 PM
   --Received total of 6U PLTS yesterday with only a transient response.
   --Serial CTs of abdomen confirmed that contrast progressing to rectum,
   still with worsening fat stranding throughout entire abdomen
   --States pain and tenderness are deceased this AM.  Denies difficulty
   breathing despite obvious tachypnea
   --ID consulted re: option for double gram
 covg in this penicillin
   allergic pt
   --Hepatology consulted regarding further mgt in what has rapidly
   evolved into fulminant hepatic failure
   --Having repeat Abd CT this am for increased distension
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2201-6-22**] 08:20 PM
   Micafungin - [**2201-6-22**] 08:52 PM
   Acyclovir - [**2201-6-23**] 12:14 AM
   Aztreonam - [**2201-6-23**] 12:14 AM
   Metronidazole - [**2201-6-23**] 12:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2201-6-23**] 03:45 AM
   Lorazepam (Ativan) - [**2201-6-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: had one bowel movt this AM prior to CT scan
   Flowsheet Data as of  [**2201-6-23**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 126 (119 - 126) bpm
   BP: 144/88(97) {119/79(89) - 160/93(108)} mmHg
   RR: 31 (17 - 37) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,326 mL
                                                                    845 mL
   PO:
             TF:
   IVF:
                                                                    465 mL
                                                                    845 mL
   Blood products:
                                                                    861 mL
   Total out:
                                                                    830 mL
                                                                    460 mL
   Urine:
                                                                    230 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    496 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.40/32/72/16/-3    8pm
   Physical Examination
   Pt somewhat lethargic after receiveing recent doses of ativan and
   benadryl. Markedly tachypneic up to 40, but denies any SOB.  Breaths
   are small and seem to be limited by increasing abdominal girth. Heart
   sounds regular w/o m/r/g. Lungs w/ clear BS bilaterally. Abd markedly
   distended and tympanic without tenderness.  Unable to appreciate
   hepatomegaly. 2+ peripheral pulses throughout. No peripheral edema.
   Labs / Radiology
   11 K/uL
   8.9 g/dL
   116 mg/dL
   1.2 mg/dL
   16 mEq/L
   3.8 mEq/L
   21 mg/dL
   100 mEq/L
   132 mEq/L
   24.2 %
   0.1 K/uL
        [image002.jpg]
                             [**2201-6-22**]  08:13 PM
                             [**2201-6-22**]  08:16 PM
                             [**2201-6-22**]  08:50 PM
                             [**2201-6-22**]  10:58 PM
                             [**2201-6-23**]  12:09 AM
                             [**2201-6-23**]  04:20 AM
   WBC
   0.1
   0.1
   Hct
   23.2
   21.6
   24.2
   Plt
   17
   14
   18
   11
   Cr
   1.1
   1.1
   1.2
   TCO2
   21
   Glucose
   149
   138
   120
   116
   Other labs: PT / PTT / INR:22.9/41.4/2.2, ALT / AST:2089/3631, Alk Phos
   / T Bili:63/4.9, Amylase / Lipase:34/21, Differential-Neuts:67.0 %,
   Band:0.0 %, Lymph:33.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:627 mg/dL,
   Lactic Acid:3.3 mmol/L, LDH:4055 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.8 mg/dL
   Imaging: CT [**6-21**]: Inflammation associated with the duodenum, extending
   along the
   retroperitoneum. Findings most likely represent duodenitis. Perforated
   duodenal cannot be excluded, although no extraluminal air is
   identified.
   Pancreatitis with secondary duodenal inflammation is less likely.
   ct [**6-22**]: Locule of air with contrast anterior to it in duodenum (2, 48)
   suggest
   possbile perforation.
   Differential density of fluid about proximal jejunal loops (2, 56)
   further
   concerning for extravasation of contrast and layering
   In approp clinical setting could consider rescanning in 1-2h (wo
   further
   contrast) to evaluated for extravasated contrast
   Signif increase in stranding (now perinephric and peripanc) and
   ascites.
   Coerrelate with labs.
   repeat CT [**6-22**]: no interval change in the extent of inflammatory
   disease since ct of 4 hours
   earlier. No extravasation of gastrograffin is noted. No free air.
   Microbiology: [**6-20**]:  4/4 bottles with GNR
   BCX: [**Date range (1) 6192**] NGTD
   STOOL [**6-22**] nothing isolated. cdiff negative
   ECG: sinus tachy at 122, nml axis, nml intervals
   Assessment and Plan
 PANCYTOPENIA
 BACTEREMIA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 NEUTROPENIA
 ACUTE PAIN
   49-year-old M with a history of APML s/p multiple rounds of
   chemotherapy who recently underwent MIDAM chemotherapy and was admitted
   to the BMT service with febrile neutropenia, GNR bacteremia, and recent
   diarrhea.  He now has progressive hepatic failure with a markedly
   distended abdomen which is compromising his respiratory status.
   # Abdominal pain and distension: Progressive since admission and
   particularly over the last day.  No clear edema or excess bowel gas
   seen on images. Seems to be almost entirely bowel/mesenteric edema
   which could fit with several processes: hepatic congestion, diffuse
   peritoneal infection/inflammation.  Peritioneal signs difficult to
   assess in this profoundly neutropenic pt with a limited inflammatory
   response.  Presumed source of GNR bacteremia is translocation across
   gut
CT abdomen negative for obvious perf, but cannot r/o microperf.
   - follow up final CT reads on multiple studies
   - low threshold for re-imaging with changes in clinical situation
   - follow up pending cultures
   - continue abx as below & ID c/s for question of double-covering GNRs
   in setting of PCN allergy
   - fluid resuscitation as below given extensive third spacing into
   abdomen
   - surgery following
   # Febrile Neutropenia / GNR bacterimia:  ANC is currently 60
profoundly
   neutropenic.  Unclear if GNR bacteremia is secondary to GI process
   which facilitated translocation across gut
will be clearer once GNR
   speciated and when we can determine if this is polymicrobial which
   would strongly argue for GI source.  Previously on double-GNR covg with
   aztreonam and CIPRO, but now off Cipro as it has rarely been implicated
   in case studies as a cause of hepatitis. ID consulting on other options
   vs restarting Cipro.
   - CURRENT ABX: Vanco ([**6-20**]-), Aztreonam ([**6-20**]-), Flagyl ([**6-20**]-),
   Micafungin ([**6-21**]-), Cipro ([**Date range (1) 6206**])
   - ?plan for G-CSF, check in w BMT
   - stool assays pending
   - serial chest x-rays
   - culture if spikes; f/u blood cultures
   - trend fever curve
   - Acyclovir 400mg TID
need to d/w BMT re: acyclovir vs gancyclovir
   (more hepatotoxic)
   .
   # Hepatic failure: Question of VOD [**3-2**] chemotherapy effect, vs
   hepatitis vs diffuse abdominal infection vs CMV. Lack of elevated alk
   phos argues against a ductal obstruction, pt has no gallbladder.
   - liver service consulted regarding further diagnosis and mgt
   - d/w surgery and rads re: best study to evaluate for VOD; given how
   poor liver US was for biliary eval, likely we would not get good
   dopplers
   - no intervention currently
   - exercise caution with benzos, etc given progressive hepatic
   impairment.
   # Tachypnea: Pt with suppressed tdal volumes secondary to abdominal
   distension and thus compensating with increase in RR. Concern is that
   he may tire if this persist or worsens.  Do not believe that pain
   contributing got tachypnea as pt denies. Will monitor closely.
   -ABG this AM
   - Consider a-line although complicated in this pt with such prononunced
   thrombocytopenia.
   # Fluid Resuscitation/ Tachycardia: Likely intravascularly depleted
   given rapidity of third spacing into abdomen.  Given increased work of
   breathing and ongoing infxn, tachycardia may not resolve with
   hydration.  Will bolus with goal of maintaining UOP. Would use levophed
   as pressor, avoid vasopressin and neo for effects on mesenteric
   circulation.
   - 2L NS thia AM and re-assess
   # APML: Holding ATRA, will discus further mgt of AML w/ BMT.
   .
   # Thrombocytopenia: Most likely secondary to profound marrow
   suppression from therapy. Transfuse to keep platelets > 20K per BMT
   recs.  Refractory to Plt transfusions
 getting HLA matching of plts b/c
   may have anti-plt Ab. Need to f/u on this issue with blood bank.
   # Anemia: Impossible to tell whether pt is hemolyzing as LDH may be
   elevated from bowel process. Hapto useless as s/p multiple
   transfusions. Bili elevated [**3-2**] hepatic process.  Will trend CBC q6H.
   Also checking DIC labs [**Hospital1 **].
   .
   # Anal fissure: Continue Analpram (home medicine)
   ICU Care
   Nutrition: NPO, IVF support, if advances, needs neutopenic diet
   Glycemic Control:
   Lines:
   PICC Line - [**2201-6-22**] 07:20 PM
   18 Gauge - [**2201-6-22**] 07:20 PM
   Prophylaxis:  Nystatin, caphosol, hold bowel meds, neutropenic
   precautions.
   DVT: no heparin given plts low
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2201-06-24 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2201-6-23**] 07:45 PM
 ARTERIAL LINE - START [**2201-6-24**] 12:06 AM
   - Transferred to [**Hospital Unit Name 10**]
   - Surgery following, had repeat CT abd/pelvis which showed progression
   of intra-abdominal free fluid and minimal change in the
   overall degree of intra-peritoneal stranding. There is no evidence of
   extraluminal leak of contrast or obstruction
   - Blood cultures growing Proteus and other GNR
   - Started meropenem desensitization, changed aztreonam to meropenem
   - Sent HSV viral load and CMV viral load
   - Intubated for airway protection, increased work of breathing
   - Aline placed
   - Given two units of FFP over night for INR>2, also pRBC's for Hct < 21
   - Started acyclovir treatment doses
   - Neupogen started
   - NAC given for hepatoprotection
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2201-6-23**] 08:41 PM
   Aztreonam - [**2201-6-23**] 08:41 PM
   Micafungin - [**2201-6-23**] 09:48 PM
   Metronidazole - [**2201-6-23**] 11:52 PM
   Acyclovir - [**2201-6-24**] 02:11 AM
   Meropenem - [**2201-6-24**] 07:05 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2201-6-23**] 02:00 PM
   Morphine Sulfate - [**2201-6-23**] 02:00 PM
   Pantoprazole (Protonix) - [**2201-6-23**] 08:48 PM
   Fentanyl - [**2201-6-24**] 03:40 AM
   Midazolam (Versed) - [**2201-6-24**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-24**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 110 (107 - 132) bpm
   BP: 130/83(96) {117/73(87) - 158/94(111)} mmHg
   RR: 16 (0 - 43) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  7,014 mL
                                                                  2,890 mL
   PO:
           TF:
   IVF:
                                                                  6,101 mL
                                                                  1,727 mL
   Blood products:
                                                                    913 mL
                                                                  1,163 mL
   Total out:
                                                                  1,630 mL
                                                                    600 mL
   Urine:
                                                                  1,630 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,384 mL
                                                                  2,290 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 650 (650 - 650) mL
   RR (Set): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 38 cmH2O
   Plateau: 33 cmH2O
   SpO2: 99%
   ABG: 7.35/40/108/21/-3
   Ve: 9.4 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Intubated, sedated, completely unresponsive to pain,
   CTAB anteriorly
   RRR NO M/R/G
   Abdomen still distented and tympanic, unchanged since yesterday
   2+ symmetric radial and DP/PT pulses, no edema or cyansosis
   Labs / Radiology
   37 K/uL
   8.3 g/dL
   152 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.5 mEq/L
   30 mg/dL
   104 mEq/L
   137 mEq/L
   22.5 %
   0.1 K/uL
        [image002.jpg]
                             [**2201-6-23**]  09:29 AM
                             [**2201-6-23**]  10:53 AM
                             [**2201-6-23**]  02:41 PM
                             [**2201-6-23**]  04:37 PM
                             [**2201-6-23**]  08:12 PM
                             [**2201-6-23**]  10:15 PM
                             [**2201-6-23**]  10:43 PM
                             [**2201-6-24**]  04:17 AM
                             [**2201-6-24**]  04:47 AM
                             [**2201-6-24**]  06:37 AM
   WBC
   0.1
   0.1
   Hct
   22.0
   25.0
   20.4
   22.5
   Plt
   31
   18
   10
   19
   17
   37
   Cr
   1.2
   1.2
   1.3
   1.3
   TCO2
   23
   23
   23
   23
   Glucose
   128
   118
   133
   152
   Other labs: PT / PTT / INR:22.9/30.9/2.2, ALT / AST:1740/3104, Alk Phos
   / T Bili:54/4.7, Amylase / Lipase:34/21, Differential-Neuts:10.0 %,
   Band:0.0 %, Lymph:90.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:516 mg/dL,
   Lactic Acid:3.4 mmol/L, Albumin:3.1 g/dL, LDH:4017 IU/L, Ca++:7.3
   mg/dL, Mg++:2.4 mg/dL, PO4:2.6 mg/dL
   Imaging: CT abd [**6-23**]:
   1. Progression of intra-abdominal free fluid and minimal change in the
   overall degree of intra-peritoneal stranding. There is no evidence of
   extraluminal leak of contrast or obstruction.
   2. Progression of right lung effusion and tree-in-[**Male First Name (un) **] opacities which
   may be
   secondary to the diffuse process involving the abdomen though should be
   clinically correlated for possible infection in the setting of
   neutropenia.
   Microbiology: [**6-20**]  PROTEUS VULGARIS
                                |
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   LEVOFLOXACIN----------<=0.25 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN----------   <=4 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   ==============
   [**6-20**]: other bottles with GNR speciation pending
   ==============
   CMV viral load pending
   HSV PCR sent
   [**Date range (1) 6253**] BCX pending ngtd
   Assessment and Plan
 PANCREATITIS, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PANCYTOPENIA
 BACTEREMIA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 NEUTROPENIA
 ACUTE PAIN
   49-year-old M with a history of APML s/p multiple rounds of
   chemotherapy who recently underwent MIDAM chemotherapy and was admitted
   to the BMT service with febrile neutropenia, GNR bacteremia, and recent
   diarrhea.  Progressive hepatic failure over 3 days is now appearing to
   improve, but still with a markedly distended abdomen which has
   compromised his respiratory status and required intubation.
   # Abdominal distension [**3-2**] diffuse bowel edema: Progressive since
   admission and ultimately requiring intubation for subsequent resp
   compromise.  No clear ascites or excess bowel gas seen on images. Seems
   to be almost entirely bowel/mesenteric edema which could fit with
   several processes: hepatic congestion, diffuse peritoneal
   infection/inflammation, CMV.  Peritioneal signs impossible to assess
   [**3-2**] sedation and neutropenia.  Presumed source of GNR bacteremia is
   translocation across gut p.vulgaris fits with this; bacterial
   peritonitis also possible
CT abdomen negative for obvious perf, but
   cannot r/o microperf.
   - low threshold for re-imaging with changes in clinical situation
   - follow up pending cultures; possible that this is poly-microbial
   - continue abx as below & consider double-covering GNRs if worsens
   - fluid resuscitation as below given extensive third spacing into
   abdomen; keep UOP above 60
   - surgery following
   - Cont tx dose of acyclovir and f/u CMV viral load.
   # Febrile Neutropenia / GNR bacterimia:  ANC is currently 60
profoundly
   neutropenic.  Likely GNR bacteremia is secondary to GI process which
   facilitated translocation across gut.  Could be polymicrobial which
   would strongly argue for GI source; currently growing only
   pan-sensitive p.vulgaris.  S/p meropenem desensitization.
   - CURRENT ABX: Vanco ([**6-20**]-), Meropenem ([**6-23**]-), Flagyl ([**6-20**]-),
   Micafungin ([**6-21**]-) /// Post: Cipro ([**Date range (1) 6206**]) Aztreonam ([**Date range (1) 6272**])
   - GCSF per BMT
   - stool assays pending
   - serial chest x-rays; concern for atelectasis vs early infx process in
   RLL on Abd CT
   - culture if spikes; f/u blood cultures
   - trend fever curve
   - Acyclovir Tx dose, f/u CMV and HSV studies
   .
   # Hepatic failure: Possiblities include VOD [**3-2**] chemotherapy effect
   (reported complication of myelotarg), vs hepatitis [**3-2**] chemo vs diffuse
   abdominal infection vs CMV. Lack of elevated alk phos argues against a
   ductal obstruction.  Not pursuing MR of Liver to dx VOD as this would
   not affect mgt currently and all liver marker improving as of this
   AM
if worsens, would pursue MR.
   - VIT K given as per Liver consult
   - monitor liver labs (esp synthetic function) [**Hospital1 **]
   - consider hepatic impairment for dosing of meds
   # Vent status: Pt intubated for increased work of breathing from
   abdominal distension.  Would not expect resp status to improve until
   abd distension is improved; this is the principal barrier to
   extubation.  Blood gas this AM adequate
no vent adjustments necessary.
   Pt does not have ARDS, but is already on ARDSnet volumes.
   # Fluid Resuscitation/ Tachycardia: 7 L positive yesterday. Prone to
   third spacing into abdomen, but currently s/p adequate volume
   repletion.  Will bolus with goal of maintaining UOP>60. Pt currently
   not displaying septic physiology, but if necessary, ould use levophed
   as pressor, avoid vasopressin and neo for effects on mesenteric
   circulation.
   - 1L NS this AM and re-assess
   # Renal failure: Cr trending up despite copious volume repletion.  Will
   monitor closely given acyclovir.  Degree of liver dz not sufficient to
   produce hepatorenal syndrome.
   # APML: Holding ATRA, will discus further mgt of AML w/ BMT.
   .
   # Thrombocytopenia: Most likely secondary to profound marrow
   suppression from therapy. Transfuse to keep platelets > 20K per BMT
   recs.  Refractory to Plt transfusions
 getting HLA matching of plts b/c
   may have anti-plt Ab. Need to f/u on this issue with blood bank.
   - check CBC/DIC labs q6h; plt goal is 50, Hct goal is 25 per BMT.
   # Anemia: Impossible to tell whether pt is hemolyzing as LDH may be
   elevated from bowel process. Hapto useless as s/p multiple
   transfusions. Bili elevated [**3-2**] hepatic process.  Will trend CBC q6H.
   Labs as above
   .
   # Anal fissure: Continue Analpram (home medicine)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-6-22**] 07:20 PM
   18 Gauge - [**2201-6-22**] 07:20 PM
   20 Gauge - [**2201-6-23**] 11:35 PM
   Arterial Line - [**2201-6-24**] 12:06 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:icu

2201-06-25 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2201-6-24**] 10:00 AM
 BLOOD CULTURED - At [**2201-6-24**] 02:30 PM
   On the 27th, pt received total of 3 U blood, 4 U FFP, and 3 U Plts
   No acute events or changes in manangement overnight
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Aztreonam - [**2201-6-23**] 08:41 PM
   Micafungin - [**2201-6-23**] 09:48 PM
   Metronidazole - [**2201-6-23**] 11:52 PM
   Vancomycin - [**2201-6-24**] 08:00 AM
   Acyclovir - [**2201-6-25**] 01:34 AM
   Meropenem - [**2201-6-25**] 01:34 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-6-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-25**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38
C (100.4
   HR: 104 (104 - 121) bpm
   BP: 143/87(102) {126/79(92) - 162/113(128)} mmHg
   RR: 15 (13 - 17) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,007 mL
                                                                  1,090 mL
   PO:
             TF:
   IVF:
                                                                  4,529 mL
                                                                  1,090 mL
   Blood products:
                                                                  2,428 mL
   Total out:
                                                                  2,060 mL
                                                                    500 mL
   Urine:
                                                                  2,060 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,947 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 544 (531 - 688) mL
   RR (Set): 1
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/39/122/22/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 244
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   52 K/uL
   9.9 g/dL
   105 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.5 mEq/L
   37 mg/dL
   108 mEq/L
   140 mEq/L
   26.8 %
   0.1 K/uL
        [image002.jpg]
                             [**2201-6-24**]  12:51 PM
                             [**2201-6-24**]  02:37 PM
                             [**2201-6-24**]  02:45 PM
                             [**2201-6-24**]  05:07 PM
                             [**2201-6-24**]  05:32 PM
                             [**2201-6-24**]  07:47 PM
                             [**2201-6-24**]  09:55 PM
                             [**2201-6-24**]  11:45 PM
                             [**2201-6-25**]  01:46 AM
                             [**2201-6-25**]  05:45 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   24.3
   23.9
   23.8
   25.6
   24.9
   26.8
   Plt
   18
   13
   47
   43
   38
   58
   50
   52
   Cr
   1.4
   1.4
   1.2
   TCO2
   27
   26
   Glucose
   135
   124
   105
   Other labs: PT / PTT / INR:20.0/30.0/1.9, ALT / AST:1559/2676, Alk Phos
   / T Bili:62/4.8, Amylase / Lipase:34/21, Differential-Neuts:10.0 %,
   Band:0.0 %, Lymph:90.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:451 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:3.0 g/dL, LDH:3378 IU/L, Ca++:7.7
   mg/dL, Mg++:2.6 mg/dL, PO4:2.1 mg/dL
   Imaging: [**6-24**] cxr: ET tube tip is in standard position projecting 3.3
   cm above the carina. NG
   tube tip is in the stomach. The NG tube tip is coiled in the stomach,
   there
   is persistent distention of the stomach. There are low lung volumes,
   multifocal areas of atelectasis have increased in the right base. There
   is
   a small right pleural effusion. Cardiac size is top normal. Widening of
   mediastinum could be just due to technique but vascular engorgement is
   suspected.
   [**6-25**] cxr; new small right effusion
   Microbiology: [**6-20**] : P. Vulgaris ID'd in aerobic bottle, GNR's in
   anaerobic bottles--FINAL
   NGTD on daily BCX since [**6-21**]
   CMV viral load pending
   Stool studies negative with viral cultures pending
   Assessment and Plan
 HEPATITIS OTHER
   Started on NAC on [**6-23**], trending down starting [**6-24**]
 BACTEREMIA
   Proteus vulgaris, on meropenem
 PANCREATITIS, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Primary cause, abdominal distention
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Holding ATRA
 PANCYTOPENIA
   Plt > 20, Hct > 25
 NEUTROPENIA
   Febrile neutropenia, on meropenem/vanco/flagyl/micafungin
 TACHYCARDIA, OTHER
   Bolus to keep UOP > 60
 ACUTE PAIN
   49-year-old M with a history of APML s/p multiple rounds of
   chemotherapy who recently underwent MIDAM chemotherapy and was admitted
   to the BMT service with febrile neutropenia, GNR bacteremia, and recent
   diarrhea.  Progressive hepatic failure over 3 days is now appearing to
   improve, but still with a markedly distended abdomen which has
   compromised his respiratory status and required intubation.
   # Abdominal distension [**3-2**] diffuse bowel edema: Progressive since
   admission and ultimately requiring intubation for subsequent resp
   compromise.  No clear ascites or excess bowel gas seen on images. Seems
   to be almost entirely bowel/mesenteric edema which could fit with
   several processes: hepatic congestion, diffuse peritoneal
   infection/inflammation, CMV.  Peritioneal signs impossible to assess
   [**3-2**] sedation and neutropenia.  Presumed source of GNR bacteremia is
   translocation across gut p.vulgaris fits with this; bacterial
   peritonitis also possible
CT abdomen negative for obvious perf, but
   cannot r/o microperf.
   - low threshold for re-imaging with changes in clinical situation
   - follow up pending cultures; spoke to micro: only one organism seenl
   - continue abx as below & consider double-covering GNRs if worsens
   - fluid resuscitation as below given extensive third spacing into
   abdomen; keep UOP above 60
   - surgery following
   # Febrile Neutropenia / GNR bacterimia:  ANC is currently 60
profoundly
   neutropenic.  Likely GNR bacteremia is secondary to GI process which
   facilitated translocation across gut.  Currently growing only
   pan-sensitive p.vulgaris.  S/p meropenem desensitization.
   - CURRENT ABX: Vanco ([**6-20**]-), Meropenem ([**6-23**]-), Micafungin ([**6-21**]-) ///
   Post: Cipro ([**Date range (1) 6206**]) Aztreonam ([**Date range (1) 6272**]) Flagyl ([**Date range (1) 6291**])
   - GCSF per BMT
   - stool assays pending
   - serial chest x-rays; concern for atelectasis vs early infx process in
   RLL on Abd CT
   - culture if spikes; f/u blood cultures
   - trend fever curve
   - Dose of acyclovir changed to ppx dose; f/u CMV viral load.
   - will bronch and BAL given persistent low grade fevers and
   retrocardiac opacity
   .
   # Hepatic failure: Possiblities include VOD [**3-2**] chemotherapy effect
   (reported complication of myelotarg), vs hepatitis [**3-2**] chemo vs diffuse
   abdominal infection vs CMV. Lack of elevated alk phos argues against a
   ductal obstruction.  Not pursuing MR of Liver to dx VOD as this would
   not affect mgt currently and all liver marker improving as of this
   AM
if worsens, would pursue MR.
   - VIT K given as per Liver consult for elevated INR
   - monitor liver labs (esp synthetic function) [**Hospital1 **]
   - consider hepatic impairment for dosing of meds
   # Vent status: Pt intubated for increased work of breathing from
   abdominal distension.  Would not expect resp status to improve until
   abd distension is improved; this is the principal barrier to
   extubation.  Blood gas this AM adequate
no vent adjustments necessary.
   Pt does not have ARDS, but is already on ARDSnet volumes (6CC/KG)
   # Fluid Resuscitation/ Tachycardia: 7 L positive yesterday. Prone to
   third spacing into abdomen, but currently s/p adequate volume
   repletion.  Will bolus with goal of maintaining UOP>60. Pt currently
   not displaying septic physiology, but if necessary, ould use levophed
   as pressor, avoid vasopressin and neo for effects on mesenteric
   circulation.
   - Currently likely fluid overloaded and as he has not displayed septic
   physiology, will diurese.
   # Renal failure: Cr stable since yesterday.  Will monitor closely given
   acyclovir.  Degree of liver dz not sufficient to produce hepatorenal
   syndrome.
   # APML: Holding ATRA, will discus further mgt of AML w/ BMT.
   .
   # Thrombocytopenia: Most likely secondary to profound marrow
   suppression from therapy. Transfuse to keep platelets > 20K per BMT
   recs.  Inititally refractory to Plt transfusions
 negative plt Abs
   - check CBC/DIC labs q6h; plt goal is 50, Hct goal is 25 per BMT.
   # Anemia: Hemolysis unlikely as LDH trending down. Possible GI bleed vs
   RP bleed, but likely a contribution from impairment of production. Has
   only had one small guiaic positive stool.   Will trend CBC q6H.  Labs
   as above. Transfuse for hct<25.
   .
   # Anal fissure: Continue Analpram (home medicine)
   ICU Care
   Nutrition: pending, may start TPN in [**3-3**] days
   Glycemic Control:
   Lines:
   PICC Line - [**2201-6-22**] 07:20 PM
will be switched tomorrow
   Arterial Line - [**2201-6-24**] 12:06 AM
   18 Gauge - [**2201-6-24**] 11:30 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2201-06-26 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2201-6-25**] 08:06 AM
 BRONCHOSCOPY - At [**2201-6-25**] 05:32 PM
 SPUTUM CULTURE - At [**2201-6-25**] 05:39 PM
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Aztreonam - [**2201-6-23**] 08:41 PM
   Micafungin - [**2201-6-23**] 09:48 PM
   Metronidazole - [**2201-6-23**] 11:52 PM
   Acyclovir - [**2201-6-25**] 06:01 PM
   Vancomycin - [**2201-6-25**] 08:03 PM
   Meropenem - [**2201-6-26**] 02:18 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 170 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-6-25**] 05:39 PM
   Pantoprazole (Protonix) - [**2201-6-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-26**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 102 (95 - 106) bpm
   BP: 134/86(101) {127/83(96) - 155/96(113)} mmHg
   RR: 16 (9 - 17) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,954 mL
                                                                    299 mL
   PO:
             TF:
   IVF:
                                                                  3,408 mL
                                                                    299 mL
   Blood products:
                                                                    486 mL
   Total out:
                                                                  4,180 mL
                                                                    700 mL
   Urine:
                                                                  3,730 mL
                                                                    700 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                   -226 mL
                                                                   -401 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O (28-36)
   Plateau: 26 cmH2O
   SpO2: 94%
   ABG: 7.47/41/85.[**Numeric Identifier 433**]/26/5
   Ve: 8.8 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   56 K/uL
   10.0 g/dL
   103 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.4 mEq/L
   43 mg/dL
   110 mEq/L
   143 mEq/L
   27.4 %
   0.1 K/uL
        [image002.jpg]
                             [**2201-6-24**]  07:47 PM
                             [**2201-6-24**]  09:55 PM
                             [**2201-6-24**]  11:45 PM
                             [**2201-6-25**]  01:46 AM
                             [**2201-6-25**]  05:45 AM
                             [**2201-6-25**]  09:43 AM
                             [**2201-6-25**]  03:16 PM
                             [**2201-6-25**]  10:14 PM
                             [**2201-6-26**]  05:40 AM
                             [**2201-6-26**]  06:05 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.1
   0.1
   Hct
   25.6
   24.9
   26.8
   26.4
   25.2
   27.0
   27.4
   Plt
   43
   38
   58
   50
   52
   47
   66
   56
   56
   Cr
   1.2
   1.2
   TCO2
   31
   Glucose
   105
   103
   Other labs: Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:3.0 g/dL,
   LDH:2695 IU/L, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: PT: 19.1  PTT: 29.6  INR: 1.8
   Fibrinogen: 390
   AP: 66 Tbili: 4.2
   LFTs: Pending
   WBC Count Pending
   Imaging: Bronchoscopy:
   Microbiology: BCx: [**Date range (1) 6300**]: NGTD
   CMV VL Pending
   Sputum: Poor quality specimen
   Assessment and Plan
   49-year-old M with a history of APML admitted for severe abdominal
   distention resulting in respiratory failure. Slowly improving with
   sypportive care.
   # Respiratory Failure: Secondary to abdominal distention and increased
   work of breathing. Doing well on AC.
   - Resolve abdominal distention
   # Abdominal distension [**3-2**] diffuse bowel edema: no clear surgical
   management.  Not worsening
   GNR bacteremia (translocation) vs. microperforation
   - low threshold for re-imaging with changes in clinical situation
   - follow up pending cultures; spoke to micro: only one organism seen
   - continue abx as below & consider double-covering GNRs if worsens
   - fluid resuscitation as below given extensive third spacing into
   abdomen; keep UOP above 60
   - surgery following
   # Febrile Neutropenia / GNR bacterimia:  ANC is currently 60
profoundly
   neutropenic.  Likely GNR bacteremia is secondary to GI process which
   facilitated translocation across gut.  Currently growing only
   pan-sensitive p.vulgaris.  S/p meropenem desensitization.  Bronch
   unrevealing
   - CURRENT ABX: Vanco ([**6-20**]-), Meropenem ([**6-23**]-), Micafungin ([**6-21**]-) ///
   Post: Cipro ([**Date range (1) 6206**]) Aztreonam ([**Date range (1) 6272**]) Flagyl ([**Date range (1) 6291**])
   - GCSF per BMT
   - serial chest x-rays; concern for atelectasis vs early infx process in
   RLL on Abd CT
   - culture if spikes; f/u blood cultures
   - trend fever curve
   - Dose of acyclovir changed to ppx dose; f/u CMV viral load
   # Hepatic failure: Possiblities include VOD [**3-2**] chemotherapy effect
   (reported complication of myelotarg), vs hepatitis [**3-2**] chemo vs diffuse
   abdominal infection vs CMV. Lack of elevated alk phos argues against a
   ductal obstruction.  Not pursuing MR of Liver to dx VOD as this would
   not affect mgt currently and all liver marker improving as of this
   AM
if worsens, would pursue MR.
   - VIT K IV Daily ongoing given elevated INR
   - monitor liver labs (esp synthetic function) [**Hospital1 **]
   - consider hepatic impairment for dosing of meds
   # Renal failure: Cr stable since yesterday.  Will monitor closely given
   acyclovir.  Degree of liver dz not sufficient to produce hepatorenal
   syndrome.
   # APML: Holding ATRA, will discus further mgt of AML w/ BMT.
   # Thrombocytopenia: Most likely secondary to profound marrow
   suppression from therapy. Transfuse to keep platelets > 20K per BMT
   recs.  Inititally refractory to Plt transfusions
 negative plt Abs
   - check CBC/DIC labs q6h; plt goal is 50, Hct goal is 25 per BMT.
   # Anemia: Hemolysis unlikely as LDH trending down. Possible GI bleed vs
   RP bleed, but likely a contribution from impairment of production. Has
   only had one small guiaic positive stool.   Will trend CBC q6H.  Labs
   as above. Transfuse for hct<25.
   # Anal fissure: Continue Analpram (home medicine)
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2201-6-22**] 07:20 PM
   Arterial Line - [**2201-6-24**] 12:06 AM
   18 Gauge - [**2201-6-24**] 11:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2201-06-27 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2201-6-26**] 03:04 PM: Needs IR confirmation of PICC
   placement
 FEVER - 101.7
F - [**2201-6-27**] 04:00 AM: Pan-cultured
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Metronidazole - [**2201-6-26**] 12:47 PM
   Acyclovir - [**2201-6-27**] 01:15 AM
   Meropenem - [**2201-6-27**] 01:15 AM
   Vancomycin - [**2201-6-27**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-6-26**] 11:32 AM
   Pantoprazole (Protonix) - [**2201-6-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-27**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.4
C (99.4
   HR: 96 (95 - 106) bpm
   BP: 113/72(86) {105/69(83) - 151/100(115)} mmHg
   RR: 15 (14 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  2,174 mL
                                                                  1,436 mL
   PO:
           TF:
   IVF:
                                                                  2,174 mL
                                                                  1,196 mL
   Blood products:
   240 mL
   Total out:
                                                                  3,430 mL
                                                                    520 mL
   Urine:
                                                                  3,430 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,256 mL
                                                                    916 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.48/42/110/28/7
   Ve: 8.3 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Intubated, sedated, unresponsive to painful stimuli
   CTAB anteriorly
   RRR NO M/R/G
   Abdomen still distented and tympanic, softer over the past 24 hours
   2+ symmetric radial and DP/PT pulses, no edema or cyansosis
   Labs / Radiology
   50 K/uL
   10.3 g/dL
   153 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.8 mEq/L
   44 mg/dL
   109 mEq/L
   145 mEq/L
   28.1 %
   0.1 K/uL
        [image002.jpg]
                             [**2201-6-26**]  05:40 AM
                             [**2201-6-26**]  06:05 AM
                             [**2201-6-26**]  12:12 PM
                             [**2201-6-26**]  04:00 PM
                             [**2201-6-26**]  08:48 PM
                             [**2201-6-26**]  09:50 PM
                             [**2201-6-26**]  10:52 PM
                             [**2201-6-27**]  03:43 AM
                             [**2201-6-27**]  05:40 AM
                             [**2201-6-27**]  05:56 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.1
   Hct
   27.4
   28.1
   27.9
   26.3
   28.1
   Plt
   56
   42
   37
   30
   29
   50
   Cr
   1.2
   1.3
   1.1
   TCO2
   31
   33
   31
   32
   Glucose
   103
   113
   153
   Other labs: ALT / AST:[**Telephone/Fax (1) 6323**], Alk Phos / T Bili:71/3.4, Amylase /
   Lipase:34/21, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:90.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:428 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.8 g/dL, LDH:1732 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Fluid analysis / Other labs: PT: 17.9  PTT: 28.6  INR: 1.6
   ALT: 972 AP: 71 Tbili: 3.4 Alb: 2.8
   AST: 1329 LDH: 1732
   Imaging: CXR: Pending
   Microbiology: CMV DNA not detected.
   BCx [**Date range (1) 6324**]: NGTD
   Assessment and Plan
   49-year-old M with a history of APML admitted for severe abdominal
   distention resulting in respiratory failure. Slowly improving with
   supportive care.
   # Respiratory Failure: Secondary to abdominal distention and increased
   work of breathing. Doing well on AC.
   - Resolve abdominal distention
   # Abdominal distension [**3-2**] diffuse bowel edema: no clear surgical
   management.  Softer today. Etiology GNR bacteremia (translocation) vs.
   microperforation.  UOP remains stable
   - follow up pending cultures
   - Lasix 40mg IV x1 for goal -1-2 L
   # Febrile Neutropenia / GNR bacterimia:  ANC is currently 0.  Likely
   GNR bacteremia is secondary to GI process which facilitated
   translocation across gut.  Currently growing only pan-sensitive
   p.vulgaris.  S/p meropenem desensitization.  Bronch unrevealing, but
   PCP not sent. CMV VL negative
   - CURRENT ABX: Vanco ([**6-20**]-), Meropenem ([**6-23**]-), Micafungin ([**6-21**]-) ///
   Post: Cipro ([**Date range (1) 6206**]) Aztreonam ([**Date range (1) 6272**]) Flagyl ([**Date range (1) 6291**])
   - GCSF per BMT
   - culture if spikes; f/u blood cultures
   - trend fever curve
   - Dose of acyclovir changed to ppx dose
   # Hepatic failure: LFTs continue to improve from initial insult which
   was like ATRA related.
   - VIT K IV Daily ongoing given elevated INR
   - monitor liver labs daily
   # Renal failure: Cr continues to improve with lasix administration.
   - Goal -1-2L daily
   # APML: Holding ATRA, will discus further mgt of AML w/ BMT
   - check CBC/DIC labs q6h; plt goal is 30, Hct goal is 25 per BMT
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   18 Gauge - [**2201-6-24**] 11:30 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Post-rounds addendum:
   Abdomen more tense (incorrectly described as softer in the above
   note).  Likely gas/stool as patient has not stooled in ~ 3 days.  Will
   obtain KUB to evaluate for stool and prescribe bowel regimen.  Also,
   patient
s L PICC line position cannot be assessed on CXR.  IR declines
   to change today, so we will likely remove and replace at the bedside.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3288**], MD
   on:[**2201-6-27**] 15:19 ------

2201-06-28 08:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Febrile to 102.5 overnight, repeat cultures, given Flagyl & Linezolid
   per Dr. [**First Name (STitle) 1359**]
   1 Unit of platelets transfused
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Linezolid - [**2201-6-27**] 08:57 PM
   Meropenem - [**2201-6-28**] 01:28 AM
   Acyclovir - [**2201-6-28**] 01:29 AM
   Metronidazole - [**2201-6-28**] 04:56 AM
   Vancomycin - [**2201-6-28**] 07:43 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-6-27**] 05:30 PM
   Pantoprazole (Protonix) - [**2201-6-28**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-28**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.8
C (100
   HR: 101 (91 - 122) bpm
   BP: 161/99(119) {115/74(87) - 168/99(119)} mmHg
   RR: 16 (14 - 17) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
           Total In:
                                                                  4,416 mL
                                                                  2,005 mL
   PO:
           TF:
   IVF:
                                                                  4,054 mL
                                                                  1,458 mL
   Blood products:
                                                                    240 mL
                                                                    200 mL
   Total out:
                                                                  4,690 mL
                                                                    785 mL
   Urine:
                                                                  4,690 mL
                                                                    660 mL
   NG:
   125 mL
   Stool:
   Drains:
   Balance:
                                                                   -274 mL
                                                                  1,220 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.50/44/94.[**Numeric Identifier 433**]/29/9
   Ve: 8.8 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Intubated, sedated, unresponsive to painful stimuli
   CTAB anteriorly
   RRR NO M/R/G
   Abdomen still distented and tympanic
   2+ symmetric radial and DP/PT pulses, no edema or cyansosis
   Labs / Radiology
   40 K/uL
   10.2 g/dL
   170 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.8 mEq/L
   41 mg/dL
   108 mEq/L
   146 mEq/L
   28.2 %
   0.1 K/uL
        [image002.jpg]
                             [**2201-6-26**]  10:52 PM
                             [**2201-6-27**]  03:43 AM
                             [**2201-6-27**]  05:40 AM
                             [**2201-6-27**]  05:56 AM
                             [**2201-6-27**]  10:41 AM
                             [**2201-6-27**]  03:33 PM
                             [**2201-6-27**]  09:14 PM
                             [**2201-6-27**]  10:53 PM
                             [**2201-6-28**]  03:23 AM
                             [**2201-6-28**]  05:04 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.1
   Hct
   28.1
   29.0
   29.2
   27.7
   28.2
   Plt
   29
   50
   47
   42
   31
   23
   40
   Cr
   1.1
   1.3
   1.2
   1.3
   1.2
   TCO2
   31
   32
   36
   Glucose
   153
   137
   131
   212
   170
   Other labs: Differential-Neuts:20.0 %, Band:0.0 %, Lymph:80.0 %,
   Mono:0.0 %, Eos:0.0 %, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: ALT: 771 AP: 70 Tbili: 2.9 Alb: 2.8
   AST: 900 LDH: 1296
   PT: 18.2  PTT: 29.4  INR: 1.7
   Imaging: CXR: [**6-27**] Limited study demonstrating placement of PICC lines
   as described.
   A new opacity at the right lung apex. The appearance is unusual and
   differential diagnosis includes extrapleural hematoma, loculated
   pleural fluid and, less likely, dense consolidation or atelectasis in
   the right upper lobe. No other significant change.
   KUB: Evidence for ascites. No free air is identified.
   Microbiology: [**Date range (1) 6334**] NGTD
   Assessment and Plan
   49-year-old M with a history of APML admitted for severe abdominal
   distention resulting in respiratory failure. Slowly improving with
   supportive care. He continued to be febrile overnight.
   # Febrile Neutropenia / GNR bacterimia:  ANC is currently 20.  P.
   Vulgaris & E. Coli bacteremia, concern for VRE given his overall
   clinical picture.  Linezolid and Flagyl started overnight.
   - CURRENT ABX: Vanco ([**6-20**]-), Meropenem ([**6-23**]-), Micafungin ([**6-21**]-)
   Flagyl ([**Date range (1) 6291**], [**6-27**]-), Linezolid ([**6-28**]- /// Post: Cipro ([**Date range (1) 6206**])
   Aztreonam ([**Date range (1) 6272**])
   - GCSF per BMT
   - culture if spikes; f/u blood cultures
   - trend fever curve
   # Pancolitis:Abdominal distension [**3-2**] diffuse bowel edema: no clear
   surgical management.  Softer today. Etiology GNR bacteremia
   (translocation) vs. microperforation.  UOP remains stable.  Not
   stooling, and yet concern for C. diff has been raised.  Lasix gtt could
   not start yesterday due to line access issues that have been resolved.
   - follow up pending cultures
   - Lasix 40mg IV x1 followed by gtt, goal -1-2L
   # Respiratory Failure: Secondary to abdominal distention and increased
   work of breathing. Doing well on AC.
   - Resolve abdominal distention
   # APML: Holding ATRA, will discus further mgt of AML w/ BMT.  Required
   only 1 unit of platelets overnight
   - check CBC/DIC labs q6h; plt goal is 30, Hct goal is 25 per BMT
   # Renal failure: Cr continues to improve with lasix administration.
   - Goal -1-2L daily
   # Hepatic failure: LFTs continue to improve from initial insult which
   was like ATRA related.
   - monitor liver labs daily
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2201-6-27**] 09:03 PM 41.[**Telephone/Fax (5) 6335**]
   mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   18 Gauge - [**2201-6-24**] 11:30 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-6-27**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Post-rounds addendum:
   New diarrhea, wbc count and ongoing fever concern for C. Diff, will
   send samples this AM.
   Will advance diet as tolerated and convert pain medication to PO.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3288**], MD
   on:[**2201-6-28**] 10:25 ------

2201-06-29 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2201-6-28**] 02:35 PM
 EKG - At [**2201-6-28**] 02:57 PM
 PICC LINE - STOP [**2201-6-28**] 03:15 PM
 SPUTUM CULTURE - At [**2201-6-29**] 04:23 AM
 URINE CULTURE - At [**2201-6-29**] 04:23 AM
 FEVER - 101.7
F - [**2201-6-28**] 08:00 PM
   LIPASE/ AMYLASE ELEVATED AND THEN ADDED ON TO ALL PRECEDING AM LABS
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2201-6-28**] 07:33 PM
   Linezolid - [**2201-6-28**] 11:26 PM
   Acyclovir - [**2201-6-29**] 01:34 AM
   Meropenem - [**2201-6-29**] 01:34 AM
   Metronidazole - [**2201-6-29**] 05:02 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-6-28**] 06:59 PM
   Pantoprazole (Protonix) - [**2201-6-28**] 07:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-29**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 35.9
C (96.7
   HR: 96 (88 - 108) bpm
   BP: 155/91(112) {109/72(85) - 174/110(130)} mmHg
   RR: 15 (15 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  4,919 mL
                                                                  1,079 mL
   PO:
           TF:
   IVF:
                                                                  3,581 mL
                                                                    631 mL
   Blood products:
                                                                    336 mL
                                                                    104 mL
   Total out:
                                                                  4,445 mL
                                                                    580 mL
   Urine:
                                                                  4,320 mL
                                                                    580 mL
   NG:
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                    474 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 8.3 L/min
   Physical Examination
   Tightly distended abdomen, minimal bowel sounds present (NEW
   DEVELOPMENT), lungs clear b/L anteriorly, good peripheral pulses
   Labs / Radiology
   41 K/uL
   10.2 g/dL
   186 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.8 mEq/L
   41 mg/dL
   106 mEq/L
   146 mEq/L
   28.1 %
   0.2 K/uL
        [image002.jpg]
                             [**2201-6-27**]  05:56 AM
                             [**2201-6-27**]  10:41 AM
                             [**2201-6-27**]  03:33 PM
                             [**2201-6-27**]  09:14 PM
                             [**2201-6-27**]  10:53 PM
                             [**2201-6-28**]  03:23 AM
                             [**2201-6-28**]  05:04 AM
                             [**2201-6-28**]  01:31 PM
                             [**2201-6-28**]  09:30 PM
                             [**2201-6-29**]  03:51 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.1
   0.1
   0.2
   Hct
   29.0
   29.2
   27.7
   28.2
   28.6
   26.0
   28.1
   Plt
   47
   42
   31
   23
   40
   36
   26
   41
   Cr
   1.3
   1.2
   1.3
   1.2
   1.1
   1.2
   1.2
   TCO2
   32
   36
   Glucose
   137
   131
   212
   170
   207
   217
   186
   Other labs: PT / PTT / INR:17.4/28.3/1.6, ALT / AST:620/614, Alk Phos /
   T Bili:71/2.4, Amylase / Lipase:164/454, Differential-Neuts:40.0 %,
   Band:10.0 %, Lymph:40.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:487
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:962 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 PERITONITIS (NON-SBP)
 PNEUMONIA, OTHER
 HEPATITIS OTHER
   started on NAC on [**6-23**], trending down starting [**6-24**]
 BACTEREMIA
   Proteus vulgaris, on meropenem
 PANCREATITIS, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   primary cause, abdominal distention
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Holding ATRA
 PANCYTOPENIA
   Plt > 20, Hct > 25
 NEUTROPENIA
   Febrile neutropenia, on meropenem/vanco/flagyl/micafungin
 TACHYCARDIA, OTHER
   Bolus to keep UOP > 60
 ACUTE PAIN
   49-year-old M with a history of APML admitted for severe abdominal
   distention resulting in respiratory failure. Slowly improving with
   supportive care. He continues to be intermittently febrile and lipase
   now revealing pancreatic inflammation which was not noted previously.
   # Febrile Neutropenia / GNR bacterimia:  ANC is currently 80.  P.
   Vulgaris & E. Coli bacteremia, with some concern for VRE given his
   overall clinical picture per BMT but no culture data to support this.
   Linezolid and Flagyl started per BMT and pt currently on both Vanco and
   linezolid
   - CURRENT ABX: Vanco ([**6-20**]-), Meropenem ([**6-23**]-), Micafungin ([**6-21**]-)
   Flagyl ([**Date range (1) 6291**], [**6-27**]-), Linezolid ([**6-28**]- /// Post: Cipro ([**Date range (1) 6206**])
   Aztreonam ([**Date range (1) 6272**])
   - discuss discontinuation of linezolid with BMT; Vanco providing
   adequate gram + covg and cultures growing two species which are being
   appropriately treated with meropenem
   - GCSF per BMT
   - culture if spikes; f/u blood cultures
   - trend fever curve
   # Pancolitis / Mesenteric Edema: Abdominal distension [**3-2**] diffuse bowel
   edema: no clear surgical management and pt not a good candidate for OR
   given current counts. Etiology GNR bacteremia (translocation) vs.
   microperforation.  UOP remains stable.  Not stooling, but concern for
   C. diff has been raised.  Lasix 40mg IV bolus has produced good UOP.
   Pancreatitis now known to be positive, had not been checked since LFTs
   had been improving, but by adding-on to previous labs, we can see that
   it began to trend up as his LFTs trended down.
   - follow up pending cultures
   - Lasix 40mg IV x1 followed by repeat doses, goal -1-2L per day as BP
   tolerates
   - if persistently febrile, will get CT torso to eval for drainable
   fluid collection; hold off on abd imaging for now; trend pancreatic
   markers
   - bowel sounds now present, may attempt TFs, will d/w BMT
   # Respiratory Failure: Secondary to abdominal distention and increased
   work of breathing. Doing well on AC.
   - Goal is to resolve abdominal distention as above
   # APML: Holding ATRA, will discus further mgt of AML w/ BMT.  Requiring
   1 u of platelets per day approximately (recently)
   - check CBC/DIC labs q6h; plt goal is 30, Hct goal is 25 per BMT
   # Renal failure: Cr continues to improve with lasix administration.
   - Goal -1-2L daily
   # Hepatic failure: LFTs continue to improve from initial insult which
   may have been chemo (possibly myelotarg) related.
   - monitor liver labs daily
   ICU Care
   Nutrition:
   TPN without Lipids - [**2201-6-28**] 06:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-6-27**] 06:00 PM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2201-06-30 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - hydral that was started caused relfex tachycardia, and at change of
   nurse shift d/c'd hydral but nurse did not see d/c order and gave next
   dose, went back into HR 130s
   - pt PIP inc to 45, but plateu in low 20s -> new CXR unchanged, ABG
   unchanged - pt received ipratropium neb x1, and incr sedation med, and
   changed to pressure control while this was occuring, now PIP back to
   normal
   - id rec mica--> vori, but heme/onc wanted mica, so now back on mica
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2201-6-29**] 08:17 AM
   Acyclovir - [**2201-6-29**] 06:17 PM
   Micafungin - [**2201-6-29**] 09:00 PM
   Linezolid - [**2201-6-30**] 12:26 AM
   Meropenem - [**2201-6-30**] 01:23 AM
   Metronidazole - [**2201-6-30**] 06:23 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-6-29**] 08:04 PM
   Morphine Sulfate - [**2201-6-30**] 06:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-30**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.6
   HR: 116 (94 - 138) bpm
   BP: 111/69(83) {109/69(82) - 172/101(125)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,526 mL
                                                                  1,052 mL
   PO:
             TF:
   IVF:
                                                                  2,354 mL
                                                                    737 mL
   Blood products:
                                                                    104 mL
   Total out:
                                                                  3,050 mL
                                                                    400 mL
   Urine:
                                                                  2,990 mL
                                                                    400 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                    476 mL
                                                                    652 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.43/49/104/33/6
   Ve: 7.2 L/min
   PaO2 / FiO2: 208
   Physical Examination
   Tightly distended abdomen, minimal bowel sounds present (NEW
   DEVELOPMENT), lungs clear b/L anteriorly, good peripheral pulses
   Labs / Radiology
   35 K/uL
   9.6 g/dL
   226 mg/dL
   1.2 mg/dL
   33 mEq/L
   4.4 mEq/L
   46 mg/dL
   107 mEq/L
   145 mEq/L
   27.1 %
   0.5 K/uL
        [image002.jpg]
                             [**2201-6-27**]  10:53 PM
                             [**2201-6-28**]  03:23 AM
                             [**2201-6-28**]  05:04 AM
                             [**2201-6-28**]  01:31 PM
                             [**2201-6-28**]  09:30 PM
                             [**2201-6-29**]  03:51 AM
                             [**2201-6-29**]  04:50 PM
                             [**2201-6-29**]  05:15 PM
                             [**2201-6-29**]  09:52 PM
                             [**2201-6-30**]  04:55 AM
   WBC
   0.1
   0.1
   0.1
   0.2
   0.3
   0.5
   Hct
   28.2
   28.6
   26.0
   28.1
   29.1
   27.1
   Plt
   23
   40
   36
   26
   41
   37
   35
   Cr
   1.2
   1.1
   1.2
   1.2
   1.2
   1.2
   TCO2
   36
   34
   34
   Glucose
   170
   207
   217
   186
   242
   226
   Other labs: PT / PTT / INR:16.5/28.5/1.5, ALT / AST:450/367, Alk Phos /
   T Bili:70/1.8, Amylase / Lipase:164/454, Differential-Neuts:40.0 %,
   Band:10.0 %, Lymph:40.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:487
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:717 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PERITONITIS (NON-SBP)
 PNEUMONIA, OTHER
 HEPATITIS OTHER
   started on NAC on [**6-23**], trending down starting [**6-24**]
 BACTEREMIA
   Proteus vulgaris, on meropenem
 PANCREATITIS, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   primary cause, abdominal distention
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Holding ATRA
 PANCYTOPENIA
   Plt > 20, Hct > 25
 NEUTROPENIA
   Febrile neutropenia, on meropenem/vanco/flagyl/micafungin
 TACHYCARDIA, OTHER
   Bolus to keep UOP > 60
 ACUTE PAIN
   49-year-old M with a history of APML admitted for severe abdominal
   distention resulting in respiratory failure. Slowly improving with
   supportive care. He continues to be intermittently febrile and lipase
   now revealing pancreatic inflammation which was not noted previously.
   # Febrile Neutropenia / GNR bacterimia:  ANC is currently 80.  P.
   Vulgaris & E. Coli bacteremia, with some concern for VRE given his
   overall clinical picture per BMT but no culture data to support this.
   Linezolid and Flagyl started per BMT and pt currently on both Vanco and
   linezolid
   - CURRENT ABX: Vanco ([**6-20**]-), Meropenem ([**6-23**]-), Micafungin ([**6-21**]-)
   Flagyl ([**Date range (1) 6291**], [**6-27**]-), Linezolid ([**6-28**]- /// Post: Cipro ([**Date range (1) 6206**])
   Aztreonam ([**Date range (1) 6272**])
   - discuss discontinuation of linezolid with BMT; Vanco providing
   adequate gram + covg and cultures growing two species which are being
   appropriately treated with meropenem
   - GCSF per BMT
   - culture if spikes; f/u blood cultures
   - trend fever curve
   # Pancolitis / Mesenteric Edema: Abdominal distension [**3-2**] diffuse bowel
   edema: no clear surgical management and pt not a good candidate for OR
   given current counts. Etiology GNR bacteremia (translocation) vs.
   microperforation.  UOP remains stable.  Not stooling, but concern for
   C. diff has been raised.  Lasix 40mg IV bolus has produced good UOP.
   Pancreatitis now known to be positive, had not been checked since LFTs
   had been improving, but by adding-on to previous labs, we can see that
   it began to trend up as his LFTs trended down.
   - follow up pending cultures
   - Lasix 40mg IV x1 followed by repeat doses, goal -1-2L per day as BP
   tolerates
   - if persistently febrile, will get CT torso to eval for drainable
   fluid collection; hold off on abd imaging for now; trend pancreatic
   markers
   - bowel sounds now present, may attempt TFs, will d/w BMT
   # Respiratory Failure: Secondary to abdominal distention and increased
   work of breathing. Doing well on AC.
   - Goal is to resolve abdominal distention as above
   # APML: Holding ATRA, will discus further mgt of AML w/ BMT.  Requiring
   1 u of platelets per day approximately (recently)
   - check CBC/DIC labs q6h; plt goal is 30, Hct goal is 25 per BMT
   # Renal failure: Cr continues to improve with lasix administration.
   - Goal -1-2L daily
   # Hepatic failure: LFTs continue to improve from initial insult which
   may have been chemo (possibly myelotarg) related.
   - monitor liver labs daily
   ICU Care
   Nutrition:
   TPN without Lipids - [**2201-6-28**] 06:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-6-27**] 06:00 PM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2201-07-01 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Tree in [**Male First Name (un) **] on lung cuts from CT abd [**6-23**] (glucan pending)
   - per BMT held Neupogen
   - insulin sliding scale increased, 8 units yesterday
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2201-6-29**] 08:17 AM
   Meropenem - [**2201-6-30**] 05:40 PM
   Acyclovir - [**2201-6-30**] 06:20 PM
   Micafungin - [**2201-6-30**] 09:05 PM
   Linezolid - [**2201-7-1**] 12:03 AM
   Metronidazole - [**2201-7-1**] 05:34 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-6-30**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-1**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100
   HR: 114 (109 - 120) bpm
   BP: 118/70(86) {104/67(79) - 124/78(92)} mmHg
   RR: 15 (14 - 15) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,392 mL
                                                                  1,170 mL
   PO:
             TF:
   IVF:
                                                                  2,116 mL
                                                                    594 mL
   Blood products:
   Total out:
                                                                  3,640 mL
                                                                  1,300 mL
   Urine:
                                                                  3,640 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -248 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.47/49/109/32/10
   Ve: 9.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: Intubated and sedated
   CHEST: lungs clear b/L anteriorly
   CV: RRR, no M
   ABD: Tightly distended abdomen,  minimal bowel sounds present
   EXT: good peripheral pulses
   Labs / Radiology
   30 K/uL
   9.5 g/dL
   200 mg/dL
   1.5 mg/dL
   32 mEq/L
   3.9 mEq/L
   48 mg/dL
   105 mEq/L
   142 mEq/L
   25.7 %
   0.9 K/uL
        [image002.jpg]
                             [**2201-6-28**]  01:31 PM
                             [**2201-6-28**]  09:30 PM
                             [**2201-6-29**]  03:51 AM
                             [**2201-6-29**]  04:50 PM
                             [**2201-6-29**]  05:15 PM
                             [**2201-6-29**]  09:52 PM
                             [**2201-6-30**]  04:55 AM
                             [**2201-6-30**]  03:51 PM
                             [**2201-7-1**]  04:57 AM
                             [**2201-7-1**]  05:12 AM
   WBC
   0.1
   0.1
   0.2
   0.3
   0.5
   0.7
   0.9
   Hct
   28.6
   26.0
   28.1
   29.1
   27.1
   26.6
   25.7
   Plt
   36
   26
   41
   37
   35
   34
   30
   Cr
   1.1
   1.2
   1.2
   1.2
   1.2
   1.5
   TCO2
   34
   34
   37
   Glucose
   [**Telephone/Fax (3) 6401**]
   Other labs: PT / PTT / INR:17.1/27.7/1.5, ALT / AST:325/267, Alk Phos /
   T Bili:82/1.4, Amylase / Lipase:164/454, Differential-Neuts:64.0 %,
   Band:6.0 %, Lymph:18.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:2.6 g/dL, LDH:717 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   T bili from 1.8 to 1.4
   ANC 626
   Lactate 2.2
   Sputum [**6-29**]: no growth
   Urine cx [**6-29**]: negative
   Cath tip cx [**6-28**]: negative
   Blood cx [**6-28**] and [**6-27**]: pending
   Sptume fungal cx [**6-27**]: no growth
   Assessment and Plan
 PERITONITIS (NON-SBP)
 PNEUMONIA, OTHER
 HEPATITIS OTHER
   started on NAC on [**6-23**], trending down starting [**6-24**]
 BACTEREMIA
   Proteus vulgaris, on meropenem
 PANCREATITIS, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   primary cause, abdominal distention
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Holding ATRA
 PANCYTOPENIA
   Plt > 20, Hct > 25
 NEUTROPENIA
   Febrile neutropenia, on meropenem/vanco/flagyl/micafungin
 TACHYCARDIA, OTHER
   Bolus to keep UOP > 60
 ACUTE PAIN
   49-year-old M with a history of APML admitted for severe abdominal
   distention resulting in respiratory failure. Slowly improving with
   supportive care. He continues to be intermittently febrile and lipase
   now revealing pancreatic inflammation
   # Febrile Neutropenia / GNR bacterimia:  ANC is currently 95 on [**6-29**].
   P. Vulgaris & E. Coli bacteremia, with some concern for VRE per BMT but
   no culture data to support this so far. .  vanco has been stopped as of
   [**6-29**]
   - ID recs apprecitated
   - CURRENT ABX: Vanco ([**6-20**]-), Meropenem ([**6-23**]-), Micafungin ([**6-21**]-)
   Flagyl ([**Date range (1) 6291**], [**6-27**]-), Linezolid ([**6-28**]- ),  will continue
   - GCSF per BMT
   - culture if spikes; f/u blood cultures
   - trend fever curve
   - monitor ANC
   - BMT recs
   # Pancolitis / Mesenteric Edema: Abdominal distension [**3-2**] diffuse bowel
   edema: no clear surgical management and pt not a good candidate for OR
   given current counts. Etiology GNR bacteremia (translocation) vs.
   microperforation.  UOP remains stable. Starting to stool, so concern
   for C. diff.
   - C. diff sent, on flagyl for now
   - abx as above for 2 week course
   - bowel rest with TPN for nutrition
   - if persistently febrile, will get CT torso to eval for drainable
   fluid collection; hold off on abd imaging for now
   - lasix for edema PRN to keep even to slightly negative
   # Pancreatitis: elevated lipase, LFTs have been improving
   - follow labs
   - hold off on diuresis today
   # Respiratory Failure: Secondary to abdominal distention and increased
   work of breathing. Had increase PIP, was changed to PC mode, now back
   to CMV assist. Unclear why having increased resistance.
   - Goal is to resolve abdominal distention as above
   - monitor peak pressure
   - goal ween towards end of week
   # APML: Holding ATRA. Requiring plts frequently. WBC starting to
   increase
   - plt goal is 30, Hct goal is 25 per BMT
   - BMT recs
   # Renal failure: Cr stable at 1.2.
   - Goal even to slightly negative today
   # Hepatic failure: LFTs continue to improve from initial insult which
   may have been chemo (possibly myelotarg) related.
   - monitor liver labs daily
   ICU Care
   Nutrition:
   TPN without Lipids - [**2201-6-28**] 06:00 PM 42 mL/hour, will continue per
   BMT and hold off on tube feeds for now
   Glycemic Control:  SSI
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-6-27**] 06:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2201-07-02 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2201-7-1**] 11:35 AM
 FEVER - 101.9
F - [**2201-7-1**] 12:00 PM
   - d/c'd flagyl
   - switched micafungin to voriconazole to cover for aspergillus
   - Cr repeat was 1.3 from 1.5
   - CT scan torso planned for ([**7-2**])
   - Urine lytes FENa 0.34%
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2201-6-29**] 08:17 AM
   Micafungin - [**2201-6-30**] 09:05 PM
   Metronidazole - [**2201-7-1**] 05:34 AM
   Acyclovir - [**2201-7-1**] 06:00 PM
   Voriconazole - [**2201-7-1**] 09:18 PM
   Linezolid - [**2201-7-2**] 12:09 AM
   Meropenem - [**2201-7-2**] 01:54 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-7-1**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-2**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.4
C (99.3
   HR: 107 (101 - 118) bpm
   BP: 135/81(98) {119/70(86) - 154/88(110)} mmHg
   RR: 16 (15 - 18) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,769 mL
                                                                  1,206 mL
   PO:
             TF:
   IVF:
                                                                  1,811 mL
                                                                    611 mL
   Blood products:
   Total out:
                                                                  3,375 mL
                                                                    930 mL
   Urine:
                                                                  3,375 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    394 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 96%
   ABG: ///32/
   Ve: 10.2 L/min
   Physical Examination
   GEN: Intubated and sedated
   CHEST: lungs clear b/L anteriorly
   CV: RRR, no M
   ABD: Tightly distended abdomen,  minimal bowel sounds present
   EXT: good peripheral pulses
   Labs / Radiology
   32 K/uL
   9.7 g/dL
   202 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.4 mEq/L
   43 mg/dL
   104 mEq/L
   146 mEq/L
   26.3 %
   1.0 K/uL
        [image002.jpg]
                             [**2201-6-29**]  03:51 AM
                             [**2201-6-29**]  04:50 PM
                             [**2201-6-29**]  05:15 PM
                             [**2201-6-29**]  09:52 PM
                             [**2201-6-30**]  04:55 AM
                             [**2201-6-30**]  03:51 PM
                             [**2201-7-1**]  04:57 AM
                             [**2201-7-1**]  05:12 AM
                             [**2201-7-1**]  11:21 AM
                             [**2201-7-2**]  03:58 AM
   WBC
   0.2
   0.3
   0.5
   0.7
   0.9
   1.0
   Hct
   28.1
   29.1
   27.1
   26.6
   25.7
   26.3
   Plt
   41
   37
   35
   34
   30
   32
   Cr
   1.2
   1.2
   1.2
   1.5
   1.3
   1.3
   TCO2
   34
   34
   37
   Glucose
   186
   242
   226
   200
   202
   Other labs: PT / PTT / INR:17.7/28.9/1.6, ALT / AST:258/220, Alk Phos /
   T Bili:93/1.4, Amylase / Lipase:164/454, Differential-Neuts:75.0 %,
   Band:1.0 %, Lymph:14.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:848 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   UA: Bact few, RBC 33, Prot 30, WBC 5
   ANC 760
   Blood cx [**7-1**]- pending
   Sputum [**6-29**]: negative
   Urine cx [**6-29**]: negative
   Cath tip cx [**6-28**]: negative
   Blood cx [**6-28**] and [**6-27**]: pending
   Sptume fungal cx [**6-27**]: no growth
   Assessment and Plan
   49M w APML admitted for severe abdominal distention resulting in
   respiratory failure. Slowly improving with supportive care.
   # Febrile Neutropenia / GNR bacteremia:  Neutropenia resolved - ANC >
   600 on [**7-1**].  P. Vulgaris & E. Coli bacteremia, with some concern for
   VRE per BMT but no culture data to support this so far.  s/p Vanco
   ([**Date range (1) 6409**]), s/p Flagyl ([**Date range (1) 6291**], [**Date range (1) 6410**]).
   - CURRENT ABX: Meropenem ([**6-23**]-), Micafungin ([**6-21**]-), Linezolid ([**6-28**]-
   ),  will continue
   - stop metronidazole
   - GCSF per BMT
   - f/u bl
   - trend fever curve
   - monitor ANC
   - ID recs
   - BMT recs
   # Pancolitis / Mesenteric Edema: Unclear etiology. Abdominal distension
   [**3-2**] diffuse bowel edema. no clear surgical management and pt not a good
   candidate for OR given current counts. Etiology GNR bacteremia
   (translocation) vs. microperforation.  UOP remains stable. Starting to
   stool, so concern for C. diff,
   - abx as above for 2 week course
   - bowel rest with TPN for nutrition
   - abd CT w/o contrast to eval for interval change
   - lasix for edema PRN to keep even to slightly negative
   # Pancreatitis: elevated lipase, LFTs have been improving
   - follow labs
   # Respiratory Failure: Secondary to abdominal distention and increased
   work of breathing. Had increase PIP, was changed to PC mode, now back
   to CMV assist. Unclear why having increased resistance.
   - Goal is to resolve abdominal distention as above
   - monitor peak pressure
   - goal ween towards end of week
   # Renal failure: Cr slightly up 1.5.
   - Goal even to slightly negative today, hold diuresis today.
   # Hepatic failure: LFTs continue to improve from initial insult which
   may have been chemo (possibly myelotarg) related.
   - monitor liver labs daily
   # APML: Holding ATRA. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - BMT recs
   ICU Care
   Nutrition:
   TPN without Lipids - [**2201-6-28**] 06:00 PM 42 mL/hour, will continue per
   BMT and hold off on tube feeds for now
   Glycemic Control:  SSI
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-6-27**] 06:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2201-07-03 07:30:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
   -febrile to 100.4, cx sent, given tylenol
   -CT torso with moderate ascites, bilateral pleural small efusions and
   bibasilar opacification - infection vs atelectasis
   - mini-BAL sent
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Micafungin - [**2201-6-30**] 09:05 PM
   Metronidazole - [**2201-7-1**] 05:34 AM
   Voriconazole - [**2201-7-2**] 07:55 PM
   Linezolid - [**2201-7-2**] 11:53 PM
   Meropenem - [**2201-7-3**] 02:00 AM
   Acyclovir - [**2201-7-3**] 02:59 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-7-2**] 07:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-3**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.9
C (100.2
   HR: 111 (101 - 120) bpm
   BP: 114/70(85) {114/70(85) - 157/92(115)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  5,071 mL
                                                                  1,035 mL
   PO:
             TF:
   IVF:
                                                                  2,056 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                  1,260 mL
   Urine:
                                                                  3,155 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,916 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 334 (334 - 334) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 101
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 47.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.54/37/154/30/9
   Ve: 11.8 L/min
   PaO2 / FiO2: 308
   Physical Examination
   GEN: Intubated and sedated
   CHEST: lungs clear b/L anteriorly
   CV: RRR, no M
   ABD: Tightly distended abdomen,  minimal bowel sounds present
   EXT: good peripheral pulses
   Labs / Radiology
   33 K/uL
   9.8 g/dL
   266 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.9 mEq/L
   37 mg/dL
   107 mEq/L
   143 mEq/L
   27.6 %
   1.2 K/uL
        [image002.jpg]
                             [**2201-6-29**]  09:52 PM
                             [**2201-6-30**]  04:55 AM
                             [**2201-6-30**]  03:51 PM
                             [**2201-7-1**]  04:57 AM
                             [**2201-7-1**]  05:12 AM
                             [**2201-7-1**]  11:21 AM
                             [**2201-7-2**]  03:58 AM
                             [**2201-7-2**]  05:29 PM
                             [**2201-7-3**]  03:49 AM
                             [**2201-7-3**]  04:01 AM
   WBC
   0.5
   0.7
   0.9
   1.0
   1.2
   Hct
   27.1
   26.6
   25.7
   26.3
   27.6
   Plt
   35
   34
   30
   32
   33
   Cr
   1.2
   1.5
   1.3
   1.3
   1.2
   TCO2
   34
   37
   31
   33
   Glucose
   [**Telephone/Fax (3) 6444**]66
   Other labs: PT / PTT / INR:17.3/28.7/1.6, ALT / AST:206/189, Alk Phos /
   T Bili:92/1.3, Amylase / Lipase:164/454, Differential-Neuts:70.0 %,
   Band:0.0 %, Lymph:18.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:996 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging:
   CT Torso [**2201-7-2**]
   1. Interval worsening of the consolidation of the bilateral lower
   lobes. This
   finding may represent atelectasis, however, superimposed infection
   cannot be
   excluded. There are small bilateral pleural effusions.
   2. Interval increase in the amount of ascites since the prior exam with
   a
   moderate amount now present.
   Assessment and Plan
 PERITONITIS (NON-SBP)
 PNEUMONIA, OTHER
 HEPATITIS OTHER
   Started on NAC on [**6-23**], trending down starting [**6-24**]
 BACTEREMIA
   Proteus vulgaris, on meropenem
 PANCREATITIS, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Primary cause, abdominal distention
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Holding ATRA
 PANCYTOPENIA
   Plt > 20, Hct > 25
 NEUTROPENIA
   Febrile neutropenia, on meropenem/vanco/flagyl/micafungin
 TACHYCARDIA, OTHER
   Bolus to keep UOP > 60
 ACUTE PAIN
   49M w APML admitted for severe abdominal distention resulting in
   respiratory failure. Slowly improving with supportive care.
   # GNR bacteremia:  Neutropenia resolved as of [**7-1**]. P. Vulgaris & E.
   Coli bacteremia, with some concern for VRE per BMT but no culture data
   to support this.  s/p Vanco ([**Date range (1) 6409**]), s/p Metronidazole ([**Date range (1) 6291**],
   [**Date range (1) 6410**]), s/p Micfungin ([**2201-7-1**]).
   - CURRENT ABX: Meropenem ([**6-23**]-), Voriconazole ([**2201-7-1**]-), Linezolid
   ([**6-28**]- )
   - GCSF per BMT
   - trend fever curve
   - monitor ANC
   - ID recs
   - BMT recs
   # Fevers: CT torso demonstrates worsened consolidation
 infiltrate vs.
   atelectasis. Mini-BAL negative gram stain therefore less likely PNA.
   Recurrent fevers could be due to atelectasis. Monitor closely for
   diarrhea to suggest C. Diff, skin exam for ulcers or eosinophils to
   suggest drug fever. Negative B-glucan and Asperigillus.
   - Increase PEEP to 10 for atelectasis
   - Continue Abx as above
   # Pancolitis / Mesenteric Edema: Etiology GNR bacteremia
   (translocation) vs. microperforation.  Abdominal distension [**3-2**] diffuse
   bowel edema. Repeat CT torso unable to comment on bowel edema as bowel
   wall collapsed, however does comment on increase of ascites. On exam
   patient is anasarcic.
   - abx as above for 2 week course
   - bowel rest with TPN for nutrition
   - lasix 40 mg IV, goal -1.5 L
   # Respiratory Failure: Secondary to abdominal distention and increased
   work of breathing. Currently on assist control.
   - goal is to resolve abdominal distention as above
   - monitor peak pressure
   - increase peep to 10 for atelactasis
   - wean versad
   # Acute Renal failure: Cr in the 1.3-1.5 range
   - Goal even to slightly negative today, hold diuresis today.
   # Hepatic failure: LFTs continue to improve from initial insult which
   may have been chemo (possibly myelotarg) related.
   - monitor liver labs daily
   # Pancreatitis: Pancreas normal according to recent CT torso.
   - follow labs
   # APML: Holding ATRA. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - BMT recs
   ICU Care
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-7-2**] 11:01 PM
   Nutrition:
   TPN without Lipids - [**2201-6-28**] 06:00 PM 42 mL/hour, will continue per
   BMT and hold off on tube feeds for now
   Glycemic Control:  SSI
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   Code status: Full code
   Disposition:ICU

2201-07-04 07:25:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2201-7-4**] 12:00 AM
 URINE CULTURE - At [**2201-7-4**] 12:00 AM
 FEVER - 101.3
F - [**2201-7-3**] 08:00 PM
   - Discussed with rads CT read: unable to assess bowel edema as bowel
   completely collapsed
   - I/O goal -1.5 L (reached, given 40 mg IV Lasix)
   - Per BMT and ID continue [**Last Name (un) 6465**], linezolid, meropenum
   - due to atelactasis increased PEEP to 10
   - wean versed - goal off
   - increased insulin sliding scale
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Linezolid - [**2201-7-3**] 11:41 PM
   Voriconazole - [**2201-7-3**] 11:41 PM
   Meropenem - [**2201-7-4**] 01:26 AM
   Acyclovir - [**2201-7-4**] 01:49 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-7-3**] 02:52 PM
   Pantoprazole (Protonix) - [**2201-7-3**] 07:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-4**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 100 (100 - 126) bpm
   BP: 120/71(86) {103/61(76) - 154/90(110)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,139 mL
                                                                  1,153 mL
   PO:
             TF:
   IVF:
                                                                  2,142 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                  5,925 mL
                                                                    780 mL
   Urine:
                                                                  5,925 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,786 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 91.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/50/162/29/7
   Ve: 5.9 L/min
   PaO2 / FiO2: 324
   Physical Examination
   GEN: Intubated and sedated
   CHEST: lungs clear b/L anteriorly
   CV: RRR, no M
   ABD: Tightly distended abdomen,  minimal bowel sounds present
   EXT: good peripheral pulses
   Labs / Radiology
   28 K/uL
   8.8 g/dL
   280 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.6 mEq/L
   36 mg/dL
   108 mEq/L
   143 mEq/L
   24.6 %
   1.3 K/uL
        [image002.jpg]
                             [**2201-7-1**]  05:12 AM
                             [**2201-7-1**]  11:21 AM
                             [**2201-7-2**]  03:58 AM
                             [**2201-7-2**]  05:29 PM
                             [**2201-7-3**]  03:49 AM
                             [**2201-7-3**]  04:01 AM
                             [**2201-7-3**]  05:10 PM
                             [**2201-7-3**]  08:07 PM
                             [**2201-7-4**]  03:43 AM
                             [**2201-7-4**]  03:52 AM
   WBC
   1.0
   1.2
   1.3
   Hct
   26.3
   27.6
   24.6
   Plt
   32
   33
   28
   Cr
   1.3
   1.3
   1.2
   1.2
   1.1
   TCO2
   37
   31
   33
   31
   34
   Glucose
   [**Telephone/Fax (3) 6466**]80
   Other labs: PT / PTT / INR:16.2/29.1/1.4, ALT / AST:159/153, Alk Phos /
   T Bili:95/1.1, Amylase / Lipase:164/454, Differential-Neuts:80.0 %,
   Band:2.0 %, Lymph:10.0 %, Mono:6.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:900 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PERITONITIS (NON-SBP)
 PNEUMONIA, OTHER
 HEPATITIS OTHER
   Started on NAC on [**6-23**], trending down starting [**6-24**]
 BACTEREMIA
   Proteus vulgaris, on meropenem
 PANCREATITIS, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Primary cause, abdominal distention
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Holding ATRA
 PANCYTOPENIA
   Plt > 20, Hct > 25
 NEUTROPENIA
   Febrile neutropenia, on meropenem/vanco/flagyl/micafungin
 TACHYCARDIA, OTHER
   Bolus to keep UOP > 60
 ACUTE PAIN
   49M w APML admitted for severe abdominal distention resulting in
   respiratory failure. Slowly improving with supportive care.
   # GNR bacteremia:  Neutropenia resolved as of [**7-1**]. P. Vulgaris & E.
   Coli bacteremia, with some concern for VRE per BMT but no culture data
   to support this.  s/p Vanco ([**Date range (1) 6409**]), s/p Metronidazole ([**Date range (1) 6291**],
   [**Date range (1) 6410**]), s/p Micfungin ([**2201-7-1**]).
   - CURRENT ABX: Meropenem ([**6-23**]-), Voriconazole ([**2201-7-1**]-), Linezolid
   ([**6-28**]- )
   - GCSF per BMT
   - trend fever curve
   - monitor ANC
   - ID recs
   - BMT recs
   # Fevers: CT torso demonstrates worsened consolidation
 infiltrate vs.
   atelectasis. Mini-BAL negative gram stain therefore less likely PNA.
   Recurrent fevers could be due to atelectasis. Monitor closely for
   diarrhea to suggest C. Diff, skin exam for ulcers or eosinophils to
   suggest drug fever. Negative B-glucan and Asperigillus.
   - Increase PEEP to 10 for atelectasis
   - Continue Abx as above
   # Pancolitis / Mesenteric Edema: Etiology GNR bacteremia
   (translocation) vs. microperforation.  Abdominal distension [**3-2**] diffuse
   bowel edema. Repeat CT torso unable to comment on bowel edema as bowel
   wall collapsed, however does comment on increase of ascites. On exam
   patient is anasarcic.
   - abx as above for 2 week course
   - bowel rest with TPN for nutrition
   - lasix 40 mg IV, goal -1.5 L
   # Respiratory Failure: Secondary to abdominal distention and increased
   work of breathing. Currently on assist control.
   - goal is to resolve abdominal distention as above
   - monitor peak pressure
   - increase peep to 10 for atelactasis
   - wean versad
   # Acute Renal failure: Cr in the 1.3-1.5 range
   - Goal even to slightly negative today, hold diuresis today.
   # Hepatic failure: LFTs continue to improve from initial insult which
   may have been chemo (possibly myelotarg) related.
   - monitor liver labs daily
   # Pancreatitis: Pancreas normal according to recent CT torso.
   - follow labs
   # APML: Holding ATRA. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - BMT recs
   ICU Care
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-7-2**] 11:01 PM
   Nutrition:
   TPN without Lipids - [**2201-6-28**] 06:00 PM 42 mL/hour, will continue per
   BMT and hold off on tube feeds for now
   Glycemic Control:  SSI
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   Code status: Full code
   Disposition:ICU

2201-07-05 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2201-7-4**] 06:50 PM
 FEVER - 102.3
F - [**2201-7-4**] 08:00 PM
   - 8pm febrile to 102.3 w secondary hypertension to SBP 180s and
   tachycardia to 150s-160s, cultured, given tylenol
   - persistently tachycardic 120s at baseline, worsened by anxiety,
   agitation w decreased sedation
   - ID: send b-glucan/galactomannin, consider CT torso w contrast
   - ventilation - PSV trial, switched back to AC in the evening
   - diuresed w lasix 40 IV x 1
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Linezolid - [**2201-7-4**] 11:30 PM
   Voriconazole - [**2201-7-5**] 12:15 AM
   Acyclovir - [**2201-7-5**] 12:48 AM
   Meropenem - [**2201-7-5**] 02:15 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-7-4**] 11:50 AM
   Pantoprazole (Protonix) - [**2201-7-4**] 08:25 PM
   Midazolam (Versed) - [**2201-7-5**] 06:20 AM
   Fentanyl - [**2201-7-5**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-5**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.6
C (99.7
   HR: 110 (104 - 151) bpm
   BP: 137/81(99) {107/61(77) - 186/111(134)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.8 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  4,405 mL
                                                                  1,156 mL
   PO:
             TF:
   IVF:
                                                                  2,030 mL
                                                                    466 mL
   Blood products:
                                                                    227 mL
   Total out:
                                                                  5,355 mL
                                                                    620 mL
   Urine:
                                                                  5,355 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -950 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 611 (541 - 611) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.45/49/136/32/9
   Ve: 6.5 L/min
   PaO2 / FiO2: 340
   Physical Examination
   GEN: Intubated, responsive to name, squeezes hands to name
   CHEST: lungs clear b/L anteriorly
   CV: RRR, no M/R/G
   ABD: Tightly distended abdomen,  minimal bowel sounds present
   EXT: good peripheral pulses
   Labs / Radiology
   51 K/uL
   8.5 g/dL
   188 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.6 mEq/L
   33 mg/dL
   110 mEq/L
   149 mEq/L
   23.8 %
   1.4 K/uL
        [image002.jpg]
                             [**2201-7-3**]  04:01 AM
                             [**2201-7-3**]  05:10 PM
                             [**2201-7-3**]  08:07 PM
                             [**2201-7-4**]  03:43 AM
                             [**2201-7-4**]  03:52 AM
                             [**2201-7-4**]  02:56 PM
                             [**2201-7-4**]  07:11 PM
                             [**2201-7-4**]  07:22 PM
                             [**2201-7-5**]  04:55 AM
                             [**2201-7-5**]  05:25 AM
   WBC
   1.3
   1.5
   1.4
   Hct
   24.6
   25.0
   26.2
   23.8
   Plt
   28
   50
   50
   51
   Cr
   1.2
   1.1
   1.1
   1.1
   TCO2
   33
   31
   34
   37
   35
   Glucose
   266
   280
   235
   188
   Other labs: PT / PTT / INR:16.0/29.6/1.4, ALT / AST:134/153, Alk Phos /
   T Bili:125/1.1, Amylase / Lipase:164/454, Differential-Neuts:80.0 %,
   Band:2.0 %, Lymph:10.0 %, Mono:6.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:849 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy. Slowly improving with
   supportive care.
   # GNR bacteremia:  Neutropenia resolved as of [**7-1**]. P. Vulgaris & E.
   Coli bacteremia, with some concern for VRE per BMT but no culture data
   to support this.  s/p Vanco ([**Date range (1) 6409**]), s/p Metronidazole ([**Date range (1) 6291**],
   [**Date range (1) 6410**]), s/p Micafungin ([**2201-7-1**]).
   - CURRENT ABX: Meropenem ([**6-23**]-), Linezolid ([**6-28**]- ), Voriconazole
   ([**2201-7-1**])
   - also on acyclovir
   - monitor ANC
   - ID recs
   - BMT recs
   # Fevers: Unclear etiology: infection (PNA, C.diff) vs atelectasis vs
   drug fever vs other immune reconstitution with incresing WBC. Mini-BAL
   negative gram stain and PMNs therefore unlikely PNA. No skin ulcers on
   exam. Negative B-glucan and Aspergillus. C. Diff negative X 2.
   - Increase PEEP to 10 for atelectasis
   - continue antimicrobials as above
   - continue checking blood cultures when spikes
   - check C. diff #3
   # Pancolitis / Mesenteric Edema : Possibly [**3-2**] chemo, resulting in GNR
   bacteremia (translocation) vs. microperforation.  Abdominal distension
   [**3-2**] diffuse bowel edema. Repeat CT torso unable to comment on bowel
   edema due to significant ascites.
   - abx as above
   - bowel rest with TPN for nutrition
   - diuresis goal -2 L, lasix as needed
   # Respiratory Failure: Secondary to abdominal distention.
   - Attempt pressure support
   - goal is to resolve abdominal distention as above
   - continue to wean sedation
   # Acute Renal failure: Continues to improve.
   # Hepatic failure/Pancreatitis: LFTs continue to improve from initial
   insult which may have been chemo (possibly myelotarg) related.
   - monitor liver labs daily
   # APML: Holding ATRA. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - BMT recs
   ICU Care
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-7-2**] 11:01 PM
   Nutrition:
   TPN without Lipids - [**2201-6-28**] 06:00 PM 42 mL/hour, will continue per
   BMT and hold off on tube feeds for now
   Glycemic Control:  SSI
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   Code status: Full code
   Disposition:ICU, critically ill

2201-07-06 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2201-7-6**] 12:00 AM
   [**7-5**]
   -ID recs- change linezolid to vanco
   -given lasix 40mg IV- diuresed >1.5 liters
   -not having stool
   -BMT recs to check CMV viral load, red blood cell morphology, and
   fractionated bili
   -had a fever at 1AM, cultures sent
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Linezolid - [**2201-7-5**] 12:00 PM
   Vancomycin - [**2201-7-5**] 08:50 PM
   Voriconazole - [**2201-7-5**] 11:44 PM
   Acyclovir - [**2201-7-6**] 02:07 AM
   Meropenem - [**2201-7-6**] 02:25 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-7-5**] 12:00 PM
   Fentanyl - [**2201-7-5**] 07:00 PM
   Midazolam (Versed) - [**2201-7-5**] 07:17 PM
   Pantoprazole (Protonix) - [**2201-7-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-6**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.6
C (99.7
   HR: 105 (105 - 132) bpm
   BP: 119/75(90) {119/72(88) - 180/117(140)} mmHg
   RR: 16 (9 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.8 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  4,200 mL
                                                                  1,165 mL
   PO:
             TF:
   IVF:
                                                                  2,052 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  5,835 mL
                                                                    655 mL
   Urine:
                                                                  5,835 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,635 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.46/46/151/30/8
   Ve: 8 L/min
   PaO2 / FiO2: 377
   Physical Examination
   GEN: Intubated, opens eyes to voice
   CHEST: lungs clear b/L anteriorly
   CV: RRR, no M/R/G
   ABD: Tightly distended abdomen,  minimal bowel sounds present
   EXT: good peripheral pulses
   Labs / Radiology
   59 K/uL
   8.2 g/dL
   160 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.9 mEq/L
   30 mg/dL
   107 mEq/L
   146 mEq/L
   23.4 %
   1.4 K/uL
        [image002.jpg]
                             [**2201-7-3**]  08:07 PM
                             [**2201-7-4**]  03:43 AM
                             [**2201-7-4**]  03:52 AM
                             [**2201-7-4**]  02:56 PM
                             [**2201-7-4**]  07:11 PM
                             [**2201-7-4**]  07:22 PM
                             [**2201-7-5**]  04:55 AM
                             [**2201-7-5**]  05:25 AM
                             [**2201-7-6**]  04:44 AM
                             [**2201-7-6**]  04:59 AM
   WBC
   1.3
   1.5
   1.4
   1.4
   Hct
   24.6
   25.0
   26.2
   23.8
   23.4
   Plt
   28
   50
   50
   51
   59
   Cr
   1.2
   1.1
   1.1
   1.1
   1.1
   TCO2
   34
   37
   35
   34
   Glucose
   266
   280
   235
   188
   160
   Other labs: PT / PTT / INR:15.7/28.4/1.4, ALT / AST:122/149, Alk Phos /
   T Bili:123/1.1, Amylase / Lipase:164/454, Differential-Neuts:76.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:16.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:820 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy. Slowly improving with
   supportive care.
   # GNR bacteremia:  Neutropenia resolved as of [**7-1**]. P. Vulgaris & E.
   Coli bacteremia, with some concern for VRE per BMT but no culture data
   to support this.  s/p Vanco ([**Date range (1) 6409**]), s/p Metronidazole ([**Date range (1) 6291**],
   [**Date range (1) 6410**]), s/p Micafungin ([**2201-7-1**]).
   - CURRENT ABX: Meropenem ([**6-23**]-), Linezolid ([**6-28**]- ), Voriconazole
   ([**2201-7-1**])
   - also on acyclovir
   - monitor sxs
 diarrhea? Lines?
   - ID recs
   - BMT recs
   # Fevers: Unclear etiology: infection (PNA, C.diff) vs atelectasis vs
   drug fever vs other immune reconstitution with incresing WBC. Mini-BAL
   negative gram stain and PMNs therefore unlikely PNA. No skin ulcers on
   exam. Negative B-glucan and Aspergillus. C. Diff negative X 2.
   - Increased PEEP to 10 for atelectasis
   - continue antimicrobials as above
   - continue checking blood cultures when spikes
   - check C. diff #3
   # Pancolitis / Mesenteric Edema : Possibly [**3-2**] chemo, resulting in GNR
   bacteremia (translocation) vs. microperforation.  Abdominal distension
   [**3-2**] diffuse bowel edema. Repeat CT torso unable to comment on bowel
   edema due to significant ascites.
   - abx as above
   - bowel rest with TPN for nutrition
   - diuresis goal -1-2L, lasix as needed
   # Respiratory Failure: Secondary to abdominal distention.
   - Attempt pressure support
   - goal is to resolve abdominal distention as above
   - continue to wean sedation
   - diurese to goal -1-2L per day w lasix
   # Acute Renal failure: Continues to improve, Cr now stable at 1.1.
   # Hepatic failure/Pancreatitis: LFTs continue to improve from initial
   insult which may have been chemo (possibly myelotarg) related.
   - monitor liver labs daily
   # APML: Holding ATRA. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - BMT recs
   ICU Care
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-7-2**] 11:01 PM
   Nutrition:
   TPN without Lipids - [**2201-6-28**] 06:00 PM 42 mL/hour, will continue per
   BMT and hold off on tube feeds for now
   Glycemic Control:  SSI
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   Code status: Full code
   Disposition:ICU, critically ill

2201-07-07 07:46:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - Sedation changed to propofol and weaned
   - Trial of PS 5/5 not tolerated, pt placed back on AC
   - CXR with evidence of fluid overload
   - Given Lasix 40mg IV overnight
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Linezolid - [**2201-7-5**] 12:00 PM
   Vancomycin - [**2201-7-6**] 07:43 PM
   Voriconazole - [**2201-7-6**] 11:54 PM
   Meropenem - [**2201-7-7**] 01:57 AM
   Acyclovir - [**2201-7-7**] 02:35 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2201-7-6**] 05:00 PM
   Pantoprazole (Protonix) - [**2201-7-6**] 07:44 PM
   Furosemide (Lasix) - [**2201-7-7**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-7**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98
   HR: 109 (89 - 119) bpm
   BP: 121/74(89) {111/66(81) - 161/95(116)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.8 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  3,861 mL
                                                                  1,087 mL
   PO:
             TF:
   IVF:
                                                                  1,710 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                  2,120 mL
   Urine:
                                                                  2,975 mL
                                                                  2,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    886 mL
                                                                 -1,033 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 374 (374 - 374) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.52/38/154/28/8
   Ve: 10.7 L/min
   PaO2 / FiO2: 385
   Physical Examination
   GEN: Intubated, opens eyes to voice
   Resp: Clear b/L anteriorly. Mild asymmetry in chest expansion.
   CV: RRR, no M/R/G
   ABD: Distended abdomen,  minimal bowel sounds present
   EXT: Good peripheral pulses
   Labs / Radiology
   70 K/uL
   8.3 g/dL
   183 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   30 mg/dL
   105 mEq/L
   143 mEq/L
   23.0 %
   1.7 K/uL
        [image002.jpg]
                             [**2201-7-4**]  02:56 PM
                             [**2201-7-4**]  07:11 PM
                             [**2201-7-4**]  07:22 PM
                             [**2201-7-5**]  04:55 AM
                             [**2201-7-5**]  05:25 AM
                             [**2201-7-6**]  04:44 AM
                             [**2201-7-6**]  04:59 AM
                             [**2201-7-6**]  06:33 PM
                             [**2201-7-7**]  03:33 AM
                             [**2201-7-7**]  03:56 AM
   WBC
   1.5
   1.4
   1.4
   1.7
   Hct
   25.0
   26.2
   23.8
   23.4
   23.0
   Plt
   50
   50
   51
   59
   70
   Cr
   1.1
   1.1
   1.1
   1.0
   TCO2
   37
   35
   34
   30
   32
   Glucose
   235
   188
   160
   183
   Other labs:
   PT / PTT / INR:15.2/28.0/1.3,
   ALT / AST:110/137, Alk Phos / T Bili:138/1.2,
   Amylase / Lipase:164/454,
   Differential-Neuts:65.0 %, Band:3.0 %, Lymph:14.0 %, Mono:17.0 %,
   Eos:0.0 %,
   Fibrinogen:487 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:820
   IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy on [**2201-6-12**].
   1)      Fever: Pancultured and on broad-spectrum antibiotics.
   a.       , will consider changing the PICC line.  No focal abscess or
   clear source in abdomen
   b.      Check ultrasound to rule out venous thrombosus
   2)      GI: unclear etiology for gut inflammation --> likely [**3-2**] to
   myletarg, Surgery following for gut distention. On bowel rest and broad
   spectrum antibitotics. still spiking fevers.
   3)      Renal- Cr improving. Making urine - Is volume overloaded -->
   and diuresing gently
   4)      Heme- pancytopenic [**3-2**] chemo. + counts starting to come back
   #Acute Respiratory Failure: likely [**3-2**] abdominal distension, improving.
   - wean fentanyl and propofol as tolerated
   - decrease PEEP to 5, switch to pressure support and perform SBT
   - monitor daily CXR
   # GNR Bacteremia: Neutropenia resolved as of [**7-1**]. Proteus vulgaris & E
   coli bacteremia, s/p Vanco ([**Date range (1) 6409**]), s/p Linezolid ([**Date range (1) 6527**]), s/p
   Metronidazole ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p Micafungin (stopped [**7-1**]).
   - current abx: Meropenem ([**6-23**]-), Vancomycin ([**7-5**]-)
   - voriconazole ([**7-1**]-)
   - acyclovir
   - f/u ID recs
   - f/u BMT recs
   # Fevers: DDx includes: PNA, C.Diff., atelectasis, drug fever, immune
   reconstitution, vs other. WBC counts returning. Mini-BAL negative gram
   stain and PMNs therefore unlikely PNA. No skin ulcers on exam. Negative
   B-glucan and Aspergillus. C. Diff negative X 3.
   - Increased PEEP to 10 for atelectasis
   - Continue broad spectrum abx
   - Consider d/c lines if continues to spike
   # Pancolitis / Mesenteric Edema : Possibly [**3-2**] chemo, resulting in GNR
   bacteremia (translocation) vs. microperforation.  Abdominal distension
   [**3-2**] diffuse bowel edema. Repeat CT torso unable to comment on bowel
   edema due to significant ascites.
   - abx as above
   - bowel rest with TPN for nutrition
   - diuresis goal -1-2L, lasix as needed
   # Acute Renal failure: Continues to improve, Cr now stable at ~1.1.
   - monitor daily Cr
   # Hepatic failure/Pancreatitis: Likely [**3-2**] drug toxicity from chemo
   (?myelotarg). Transaminases in 4000s on presentation, continue to
   improve.
   - monitor liver labs daily
   # APML: Last chemo [**6-12**]. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - BMT recs
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2201-7-6**] 03:01 PM 87 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-7-6**] 10:41 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-07-08 07:25:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - low dose fentanyl, attempting to wean propofol, but pt agitated
   - PEEP down to 5 --> pt on PS 5/5 overnight
   - fevers ? DVT --> UE clot, started on heparin drip
   - diuresed to -1.9L per 24hrs (furosemide 40 IV x 2)
   - access - PICC staff wondering if IJ is better for him than PICC
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Linezolid - [**2201-7-5**] 12:00 PM
   Vancomycin - [**2201-7-7**] 08:16 PM
   Voriconazole - [**2201-7-8**] 12:21 AM
   Meropenem - [**2201-7-8**] 01:54 AM
   Acyclovir - [**2201-7-8**] 03:19 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Heparin Sodium - 1,200 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-7-7**] 07:50 AM
   Furosemide (Lasix) - [**2201-7-7**] 05:38 PM
   Heparin Sodium - [**2201-7-8**] 01:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-8**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 114 (99 - 130) bpm
   BP: 116/69(85) {105/58(71) - 150/90(109)} mmHg
   RR: 15 (15 - 35) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.8 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  3,902 mL
                                                                  1,232 mL
   PO:
             TF:
   IVF:
                                                                  1,802 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                  5,875 mL
                                                                  1,460 mL
   Urine:
                                                                  5,875 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,973 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 525 (444 - 525) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: 7.53/37/77.[**Numeric Identifier **]/28/7
   Ve: 15.2 L/min
   PaO2 / FiO2: 195
   Physical Examination
   GEN: Intubated, opens eyes to voice
   Resp: Clear b/L anteriorly. Mild asymmetry in chest expansion.
   CV: RRR, no M/R/G
   ABD: Distended abdomen,  minimal bowel sounds present
   EXT: Good peripheral pulses
   Labs / Radiology
   103 K/uL
   8.5 g/dL
   149 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.0 mEq/L
   31 mg/dL
   104 mEq/L
   140 mEq/L
   23.0 %
   2.8 K/uL
        [image002.jpg]
                             [**2201-7-5**]  05:25 AM
                             [**2201-7-6**]  04:44 AM
                             [**2201-7-6**]  04:59 AM
                             [**2201-7-6**]  06:33 PM
                             [**2201-7-7**]  03:33 AM
                             [**2201-7-7**]  03:56 AM
                             [**2201-7-7**]  12:56 PM
                             [**2201-7-7**]  04:15 PM
                             [**2201-7-8**]  04:09 AM
                             [**2201-7-8**]  04:26 AM
   WBC
   1.4
   1.7
   2.8
   Hct
   23.4
   23.0
   23.0
   Plt
   59
   70
   103
   Cr
   1.1
   1.0
   1.2
   TCO2
   35
   34
   30
   32
   29
   29
   32
   Glucose
   160
   183
   149
   Other labs: PT / PTT / INR:14.4/60.0/1.3, ALT / AST:93/136, Alk Phos /
   T Bili:185/1.5, Amylase / Lipase:164/454, Differential-Neuts:63.0 %,
   Band:1.0 %, Lymph:14.0 %, Mono:16.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:703 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   CMV Viral Load (Final [**2201-7-7**]):
         CMV DNA not detected.
   Assessment and Plan
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy on [**2201-6-12**].
   # Acute Respiratory Failure: likely [**3-2**] abdominal
   inflammation/distension, improving.
   - wean fentanyl and propofol as tolerated
   - decrease PEEP to 5, switch to pressure support and perform SBT
   - monitor daily CXR
   # Fevers: DDx includes: infection (PNA, C.Diff) vs atelectasis vs drug
   fever vs clot vs other. WBC counts returning. Mini-BAL negative gram
   stain and PMNs therefore unlikely PNA. No skin ulcers on exam. Negative
   B-glucan and Aspergillus. C. Diff negative X 3. UE U/S demonstrated
   clots in the left arm.
   - Continue broad spectrum abx (see below)
   - Consider d/c lines if continues to spike
   - New line placement today
   - d/c old (likely infected) arterial line
   # DVT: LUE showed DVT.
   - heparin gtt
   - LE U/S to eval for DVT
   # GNR Bacteremia: Neutropenia resolved as of [**7-1**]. Proteus vulgaris & E
   coli bacteremia, s/p Vanco ([**Date range (1) 6409**]), s/p Linezolid ([**Date range (1) 6527**]), s/p
   Metronidazole ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p Micafungin (stopped [**7-1**]).
   - current abx: Meropenem ([**6-23**]-), Vancomycin ([**7-5**]-)
   - voriconazole ([**7-1**]-)
   - acyclovir
   - f/u ID recs
   - f/u BMT recs
   # Pancolitis / Mesenteric Edema : Possibly [**3-2**] chemo, resulting in GNR
   bacteremia (translocation) vs. microperforation.  Abdominal distension
   [**3-2**] diffuse bowel edema. Repeat CT torso unable to comment on bowel
   edema due to significant ascites.
   - abx as above
   - bowel rest with TPN for nutrition
   - diuresis goal net negative, lasix as needed
   # Acute Renal failure: Continues to improve, Cr now stable at ~1.0
   - monitor daily Cr
   # Hepatic failure/Pancreatitis: Likely [**3-2**] drug toxicity from chemo
   (?myelotarg). Transaminases in 4000s on presentation, continue to
   improve.
   - monitor liver labs daily
   # APML: Last chemo [**6-12**]. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - BMT recs
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2201-7-7**] 01:47 PM 87 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   PICC Line - [**2201-6-26**] 03:04 PM
   20 Gauge - [**2201-7-6**] 10:41 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-07-09 07:31:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
 ULTRASOUND - At [**2201-7-8**] 10:28 AM
 MULTI LUMEN - START [**2201-7-8**] 02:27 PM
 PICC LINE - STOP [**2201-7-8**] 05:00 PM
   - US LE with no DVT
   - had right IJ line placed
   - given lasix 40mg IV in evening, was 250ml positive before lasix
   - ID - fevers may be from DVT in UE
   - NGT placed, holding tube feeds in case of extubation in AM
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2201-7-8**] 07:42 PM
   Voriconazole - [**2201-7-8**] 11:16 PM
   Meropenem - [**2201-7-9**] 12:46 AM
   Acyclovir - [**2201-7-9**] 01:30 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2201-7-8**] 12:16 PM
   Heparin Sodium - [**2201-7-8**] 03:00 PM
   Famotidine (Pepcid) - [**2201-7-8**] 07:13 PM
   Furosemide (Lasix) - [**2201-7-9**] 12:34 AM
   Haloperidol (Haldol) - [**2201-7-9**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-9**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100
   HR: 121 (95 - 121) bpm
   BP: 135/80(98) {95/57(69) - 172/104(127)} mmHg
   RR: 27 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.8 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  4,537 mL
                                                                  1,180 mL
   PO:
             TF:
   IVF:
                                                                  2,575 mL
                                                                    534 mL
   Blood products:
   Total out:
                                                                  4,425 mL
                                                                  3,645 mL
   Urine:
                                                                  4,425 mL
                                                                  3,645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    112 mL
                                                                 -2,463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (411 - 771) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.51/35/96.[**Numeric Identifier 274**]/24/4
   Ve: 15.1 L/min
   PaO2 / FiO2: 242
   Physical Examination
   GEN: Intubated, opens eyes to voice
   Resp: Clear b/L anteriorly. Mild asymmetry in chest expansion.
   CV: RRR, no M/R/G
   ABD: Distended abdomen,  minimal bowel sounds present
   EXT: Good peripheral pulses
   Labs / Radiology
   159 K/uL
   8.5 g/dL
   171 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.3 mEq/L
   30 mg/dL
   102 mEq/L
   137 mEq/L
   24.4 %
   3.4 K/uL
        [image002.jpg]
                             [**2201-7-7**]  03:56 AM
                             [**2201-7-7**]  12:56 PM
                             [**2201-7-7**]  04:15 PM
                             [**2201-7-8**]  04:09 AM
                             [**2201-7-8**]  04:26 AM
                             [**2201-7-8**]  12:44 PM
                             [**2201-7-8**]  06:28 PM
                             [**2201-7-9**]  02:04 AM
                             [**2201-7-9**]  04:33 AM
                             [**2201-7-9**]  04:45 AM
   WBC
   2.8
   3.4
   Hct
   23.0
   24.4
   Plt
   103
   159
   Cr
   1.2
   1.1
   TCO2
   32
   29
   29
   32
   30
   31
   26
   29
   Glucose
   149
   171
   Other labs: PT / PTT / INR:14.3/71.4/1.2, ALT / AST:86/124, Alk Phos /
   T Bili:218/1.3, Amylase / Lipase:164/454, Differential-Neuts:63.0 %,
   Band:1.0 %, Lymph:14.0 %, Mono:16.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:747 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Wound culture pending
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 PERITONITIS (NON-SBP)
 PNEUMONIA, OTHER
 HEPATITIS OTHER
   Started on NAC on [**6-23**], trending down starting [**6-24**]
 BACTEREMIA
   Proteus vulgaris, on meropenem
 PANCREATITIS, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Primary cause, abdominal distention
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Holding ATRA
 PANCYTOPENIA
   Plt > 20, Hct > 25
 NEUTROPENIA
   Febrile neutropenia, on meropenem/vanco/flagyl/micafungin
 TACHYCARDIA, OTHER
   Bolus to keep UOP > 60
 ACUTE PAIN
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy on [**2201-6-12**].
   # Acute Respiratory Failure: likely [**3-2**] abdominal
   inflammation/distension, improving.
   - wean fentanyl and propofol as tolerated
   - decrease PEEP to 5, switch to pressure support and perform SBT
   - monitor daily CXR
   # Fevers: DDx includes: infection (PNA, C.Diff) vs atelectasis vs drug
   fever vs clot vs other. WBC counts returning. Mini-BAL negative gram
   stain and PMNs therefore unlikely PNA. No skin ulcers on exam. Negative
   B-glucan and Aspergillus. C. Diff negative X 3. UE U/S demonstrated
   clots in the left arm.
   - Continue broad spectrum abx (see below)
   - Consider d/c lines if continues to spike
   - New line placement today
   - d/c old (likely infected) arterial line
   # DVT: LUE showed DVT.
   - heparin gtt
   - LE U/S to eval for DVT
   # GNR Bacteremia: Neutropenia resolved as of [**7-1**]. Proteus vulgaris & E
   coli bacteremia, s/p Vanco ([**Date range (1) 6409**]), s/p Linezolid ([**Date range (1) 6527**]), s/p
   Metronidazole ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p Micafungin (stopped [**7-1**]).
   - current abx: Meropenem ([**6-23**]-), Vancomycin ([**7-5**]-)
   - voriconazole ([**7-1**]-)
   - acyclovir
   - f/u ID recs
   - f/u BMT recs
   # Pancolitis / Mesenteric Edema : Possibly [**3-2**] chemo, resulting in GNR
   bacteremia (translocation) vs. microperforation.  Abdominal distension
   [**3-2**] diffuse bowel edema. Repeat CT torso unable to comment on bowel
   edema due to significant ascites.
   - abx as above
   - bowel rest with TPN for nutrition
   - diuresis goal net negative, lasix as needed
   # Acute Renal failure: Continues to improve, Cr now stable at ~1.0
   - monitor daily Cr
   # Hepatic failure/Pancreatitis: Likely [**3-2**] drug toxicity from chemo
   (?myelotarg). Transaminases in 4000s on presentation, continue to
   improve.
   - monitor liver labs daily
   # APML: Last chemo [**6-12**]. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - BMT recs
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2201-7-8**] 01:00 PM 88 mL/hour
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   Multi Lumen - [**2201-7-8**] 02:27 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: protonix
   Code status: Full code
   Disposition:

2201-07-10 07:57:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - ID: d/c voriconazole, started po fluconazole ppx dose
   - spiking fevers: panculture and sputum ordered
   - failed SBT several times: increased HR, BP, RR, appeared
   uncomfortable even with mother at bedside
   - IP consulted for PEG/trach tomorrow
   - NGT placed, holding tube feeds at midnight for PEG/trach
   - family wants to be by bedside if wean sedation, SBT trial. Wants to
   communicate with BMT Dr. [**First Name (STitle) 1359**], [**Doctor Last Name 6604**].
   - CT torso with po contrast done this AM
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Voriconazole - [**2201-7-9**] 12:45 PM
   Vancomycin - [**2201-7-9**] 07:46 PM
   Fluconazole - [**2201-7-9**] 09:23 PM
   Acyclovir - [**2201-7-10**] 01:38 AM
   Meropenem - [**2201-7-10**] 01:38 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2201-7-9**] 02:20 PM
   Famotidine (Pepcid) - [**2201-7-9**] 07:46 PM
   Other medications:
   Flowsheet Data as of  [**2201-7-10**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 102 (101 - 119) bpm
   BP: 119/71(87) {114/65(82) - 158/93(115)} mmHg
   RR: 22 (22 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.8 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  4,472 mL
                                                                  1,701 mL
   PO:
             TF:
   IVF:
                                                                  2,332 mL
                                                                    549 mL
   Blood products:
   Total out:
                                                                  6,835 mL
                                                                    900 mL
   Urine:
                                                                  6,835 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,363 mL
                                                                    801 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 554 (452 - 554) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.49/35/108/23/3
   Ve: 13.9 L/min
   PaO2 / FiO2: 108
   Physical Examination
   GEN: Intubated, opens eyes to voice
   Resp: Clear b/L anteriorly. Mild asymmetry in chest expansion.
   CV: RRR, no M/R/G
   ABD: Distended abdomen,  minimal bowel sounds present
   EXT: Good peripheral pulses
   Labs / Radiology
   189 K/uL
   8.0 g/dL
   189 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.5 mEq/L
   29 mg/dL
   108 mEq/L
   141 mEq/L
   23.1 %
   4.4 K/uL
        [image002.jpg]
                             [**2201-7-8**]  04:09 AM
                             [**2201-7-8**]  04:26 AM
                             [**2201-7-8**]  12:44 PM
                             [**2201-7-8**]  06:28 PM
                             [**2201-7-9**]  02:04 AM
                             [**2201-7-9**]  04:33 AM
                             [**2201-7-9**]  04:45 AM
                             [**2201-7-9**]  08:40 AM
                             [**2201-7-9**]  05:51 PM
                             [**2201-7-10**]  04:34 AM
   WBC
   2.8
   3.4
   4.4
   Hct
   23.0
   24.4
   23.1
   Plt
   103
   159
   189
   Cr
   1.2
   1.1
   0.9
   TCO2
   32
   30
   31
   26
   29
   29
   27
   Glucose
   149
   171
   189
   Other labs:
    PT / PTT / INR:14.2/29.3/1.2,
   ALT / AST:66/88, Alk Phos / T Bili:177/1.0,
   Amylase / Lipase:164/454,
   Differential-Neuts:63.0 %, Band:1.0 %, Lymph:14.0 %, Mono:16.0 %,
   Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:639 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy on [**2201-6-12**].
   # Acute Respiratory Failure: likely [**3-2**] abdominal
   inflammation/distension. Difficult to wean sedation due to agitation (?
   withdrawal)
   - continue to attempt weaning fentanyl and propofol as tolerated
   - transition to dexmedotimidine
   - wean pressure support as tolerated and perform SBT daily
   - tracheostomy today
   - monitor daily CXR
   # Fevers: DDx includes: infection (PNA, GNR bacteremia) vs atelectasis
   vs clot vs drug fever (?voriconazole) vs other. WBC counts returning.
   Mini-BAL negative gram stain and PMNs therefore unlikely PNA. No skin
   ulcers on exam. Negative B-glucan and Aspergillus. C. Diff negative X
   3. UE. U/S demonstrated clots in the left arm. s/p Vanco ([**Date range (1) 6409**]),
   s/p Linezolid ([**Date range (1) 6527**]), s/p Metronidazole ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p
   Micafungin (stopped [**7-1**]), s/p Voriconazole (6/3
 [**7-9**])
   - continue broad spectrum abx, but d/w ID/BMT
   - pan-cx (bl, urine)
   # GNR Bacteremia: Neutropenia resolved as of [**7-1**]. Proteus vulgaris & E
   coli bacteremia.
   s/p Vanco ([**Date range (1) 6409**]), s/p Linezolid ([**Date range (1) 6527**]), s/p Metronidazole
   ([**Date range (1) 6291**], [**Date range (1) 6410**])
   - current abx: Meropenem ([**6-23**]-), Vancomycin ([**7-5**]-)
   - voriconazole ([**7-1**]-)
   - acyclovir
   - f/u ID recs
   - f/u BMT recs
   # LUE DVT: Shown in left basilic vein on U/S [**7-7**].
   - heparin gtt, holding for tracheostomy
   # Pancolitis / Mesenteric Edema : Possibly [**3-2**] chemo, resulting in GNR
   bacteremia (translocation) vs. microperforation.  Abdominal distension
   [**3-2**] diffuse bowel edema. Moderate ascites.
   - abx as above
   - tube feeds through OG tube (on hold today for tracheostomy)
   - diuresis goal net negative, lasix as needed
   - GI c/s
   - discuss PEG placement w GI given ascites
   # Hepatic failure/Pancreatitis: Likely [**3-2**] drug toxicity from chemo
   (?myelotarg). Transaminases in 4000s on presentation, continue to
   improve.
   - monitor liver labs daily
   # Acute Renal failure: Resolved. Cr now stable at ~1.0
   - monitor daily Cr
   # APML: Last chemo [**6-12**]. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - BMT recs
   ICU Care
   Nutrition:
   TPN without Lipids - [**2201-7-9**] 05:57 PM 83 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   Multi Lumen - [**2201-7-8**] 02:27 PM
   20 Gauge - [**2201-7-10**] 02:52 AM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 129**] status: Full code
   Disposition: ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident
s note, including the assessment and plan. I would emphasize
   and add the following points:
   49yo s/p chole with AML (M3) Dx in [**6-5**] s/p induction, consolidation
   and maintenance, though with need for additional consolidation doses of
   chemo due to progression, with recent chemo early [**2201-6-12**] with ATRA,
   mitoxantrone, myelotarg and gemtuzumab. Pt admit [**6-20**] with fever and 3
   days diarrhea; found to have progressive abd distention and pain. CT
   Abd consistent with bowel wall stranding and noted to have GNR
   (proteus) in blood. Also with acute hepatitis with transaminases close
   to 4000. Concern of viral process (CMV colitis/hepatitis) vs drug
   toxicity from recent chemo.
   Overnight, had CT scan that showed essentially normal lungs but abdomen
   reveals continued inflammation in the jejunum and duodenum.
   Tmax 100.6   BP MAPs 80s   P 80-90s
   PS 15/5
   Sedated on Propofol
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Soft NT; minimal distension (improved)
   Critically ill 49 yo w/AML s/p chemo w/abd inflammation (?pan colitis)
   and distension causing hypotension and resp failure. Remains critically
   ill with following issues
   1)      Acute Respiratory Failure: Review of CT of lung is unimpressive
   so unclear why patient is still have difficulty weaning from the
   ventilator.
   - Will change to precedex and attempt weaning today
   2) Small bowel inflammation: GI consult, make surgery aware as already
   following patient
   3)Fever: Continues to spike temperature
   a.       Unclear if related to abdominal findings or another
   undiscovered source.  Will explore abdominal source for now and discuss
   with GI
   4)Renal- Continue diuresis to help get off the ventilator
   5)      Heme- pancytopenic [**3-2**] chemo. + counts continuing to improve
   6)      Upper extremity thrombosus
 on heparin and source (PICC) has
   been removed
   7)      ICU- FULL CODE
   Patient is Critically Ill
 time spent: 30 minutes
   Addedum: Failed weaning but will continue on precedex and make another
   attempt tomorrow.  If he fails, then we will plan for trach on Monday.
   Also, will hold heparin overnight and perform paracentesis to evaluate
   if fluid is source of persistent fever.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2201-7-11**] 08:56 ------

2201-07-11 08:24:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - no trach/PEG done
   - GI recs- needs a paracentesis, stool studies
   - ID recs- agree with para, also would like to change meropenem to
   500mg Q6H, and Fluconazole to 400mg.
   - On precedex and PS 5/5, RSBI 40
 extubated this AM
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Voriconazole - [**2201-7-9**] 12:45 PM
   Fluconazole - [**2201-7-9**] 09:23 PM
   Acyclovir - [**2201-7-11**] 01:52 AM
   Meropenem - [**2201-7-11**] 05:30 AM
   Vancomycin - [**2201-7-11**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Dexmedetomidine (Precedex) - 1.4 mcg/Kg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2201-7-11**] 05:31 AM
   Famotidine (Pepcid) - [**2201-7-11**] 07:30 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-11**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.6
   HR: 82 (80 - 107) bpm
   BP: 166/89(114) {95/57(69) - 166/92(115)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 137.8 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  4,906 mL
                                                                  1,583 mL
   PO:
             TF:
   IVF:
                                                                  2,013 mL
                                                                    840 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                  1,780 mL
   Urine:
                                                                  3,470 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,436 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 514 (514 - 640) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.46/35/99.[**Numeric Identifier 8**]/21/1
   Ve: 12.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GEN: Intubated, opens eyes to voice
   Resp: Clear b/L anteriorly. Mild asymmetry in chest expansion.
   CV: RRR, no M/R/G
   ABD: Distended abdomen,  minimal bowel sounds present
   EXT: Good peripheral pulses
   Labs / Radiology
   224 K/uL
   7.9 g/dL
   166 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.2 mEq/L
   32 mg/dL
   110 mEq/L
   140 mEq/L
   22.8 %
   3.5 K/uL
        [image002.jpg]
                             [**2201-7-9**]  02:04 AM
                             [**2201-7-9**]  04:33 AM
                             [**2201-7-9**]  04:45 AM
                             [**2201-7-9**]  08:40 AM
                             [**2201-7-9**]  05:51 PM
                             [**2201-7-10**]  04:34 AM
                             [**2201-7-10**]  04:38 PM
                             [**2201-7-10**]  07:57 PM
                             [**2201-7-11**]  04:08 AM
                             [**2201-7-11**]  04:39 AM
   WBC
   3.4
   4.4
   3.5
   Hct
   24.4
   23.1
   22.8
   Plt
   159
   189
   224
   Cr
   1.1
   0.9
   0.9
   TCO2
   26
   29
   29
   27
   24
   25
   26
   Glucose
   171
   189
   166
   Other labs:
   PT / PTT / INR:14.3/29.8/1.2,
   ALT / AST:54/75, Alk Phos / T Bili:156/0.9,
   Amylase / Lipase:26/53,
   Differential-Neuts:61.0 %, Band:1.0 %, Lymph:5.0 %, Mono:33.0 %,
   Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:622 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Micro: NGTD/pending
   CT Torso:
    1. Persistent [**Hospital1 **]-basilar, left greater than right, pulmonary
       consolidations.This may represent atelectasis, however,
       superimposed pneumonia cannot be excluded. Small bilateral pleural
       effusions are improved.
    2. Mild jejunal wall thickening is non-specific but could reflect
       opportunistic infection.
    3. Persistent moderate intra- abdominal ascites, with no evidence of
       loculated abscess formation.
   Assessment and Plan
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy on [**2201-6-12**].
   # Acute Respiratory Failure: likely [**3-2**] abdominal
   inflammation/distension in the setting of chemo. Prolonged intubation
   from [**6-20**] to [**7-11**], now extubated.
   - monitor respiratory status
   - monitor ABGs
   - gentle diuresis to help w respiratory status (responds to lasix 10mg
   IV)
   - goal -500-1000cc per 24 hrs
   - consider reintubation/tracheostomy if worsening
   - check CXR in AM
   # Abd distention/Mesenteric Edema/Ascites : Unclear etiology, likely
   diffuse inflammatory edema in the setting of chemo, possibly c/b GNR
   bacteremia (translocation) vs. microperforation. ? Bowel thickening on
   CT abdomen ? [**3-2**] edema, though could be infectious per GI. Moderate
   ascites of unclear etiology possibly related to mesenteric edema though
   ddx includes portal HTN given chemo-induced hepatitis on admission vs
   hypoalbuminemia vs other.
   - broad-spectrum abx: meropenem ([**6-23**]-), vancomycin ([**7-5**]-)
- paracentesis today
 eval for albumin, total protein, cell count, gram stain a
nd culture
   - f/u stool culture, O&P
   - diuresis goal net negative, lasix as needed (see above)
   - KUB to eval for interval change
   - GI recs
   # Fevers: DDx includes: infection (PNA, GNR bacteremia) vs atelectasis
   vs clot vs drug fever (?voriconazole) vs other. WBC counts returning.
   Mini-BAL negative gram stain and PMNs therefore unlikely PNA. No skin
   ulcers on exam. Negative B-glucan and Aspergillus. C. Diff negative X
   3. UE. U/S demonstrated clots in the left arm. s/p Vanco ([**Date range (1) 6409**]),
   s/p Linezolid ([**Date range (1) 6527**]), s/p Metronidazole ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p
   Micafungin (stopped [**7-1**]), s/p Voriconazole (6/3
 [**7-9**]). Fever curve
   improving.
   - continue broad spectrum abx, but d/w ID/BMT
   - pan-cx if spikes (bl, urine)
   # GNR Bacteremia: Neutropenia resolved as of [**7-1**]. Proteus vulgaris & E
   coli bacteremia per blood cxs on [**6-20**].
   s/p Vanco ([**Date range (1) 6409**]), s/p Linezolid ([**Date range (1) 6527**]), s/p Metronidazole
   ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p Voriconazole (6/3
 [**7-9**]).
   - current abx: Meropenem ([**6-23**]-), Vancomycin ([**7-5**]-)
   - discuss w ID course duration for abx (2 wks post neutropenia?)
   - acyclovir
   - f/u ID recs
   - f/u BMT recs
   # LUE DVT: Shown in left basilic vein on U/S [**7-7**]. Has been held in the
   setting of possible tracheostomy/PEG.
   - heparin gtt, restart after paracentesis
   # Hepatitis/Pancreatitis: Likely [**3-2**] drug toxicity from chemo
   (?myelotarg). Transaminases in 4000s on presentation, continue to
   improve.
   - monitor liver labs daily
   # Acute Renal failure: Resolved. Cr now stable at ~1.0
   - monitor daily Cr
   # APML: Last chemo [**6-12**]. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - consider 1 pRBC today
   - BMT recs
   ICU Care
   Nutrition:
   TPN without Lipids - [**2201-7-10**] 05:31 PM 83 mL/hour
   - speech and swallow eval
   - NGT feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM
   Multi Lumen - [**2201-7-8**] 02:27 PM
   20 Gauge - [**2201-7-10**] 02:52 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 129**] status: Full code
   Disposition:

2201-07-12 07:29:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2201-7-11**] 08:52 AM
   - pt extubated, on room air ABG was 7.53, 29, 83
   - delerium, but conversive
   - diagnostic para with serosangous fluid, transudative, cx sent
   - NGT placed and tube feeds started
   - continued to bridge on TPN
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Voriconazole - [**2201-7-9**] 12:45 PM
   Fluconazole - [**2201-7-9**] 09:23 PM
   Vancomycin - [**2201-7-11**] 08:00 PM
   Acyclovir - [**2201-7-12**] 02:24 AM
   Meropenem - [**2201-7-12**] 06:26 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2201-7-11**] 07:49 PM
   Heparin Sodium - [**2201-7-12**] 02:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-12**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.5
C (99.5
   HR: 103 (81 - 130) bpm
   BP: 157/81(104) {140/69(92) - 177/96(118)} mmHg
   RR: 30 (18 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.8 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  3,849 mL
                                                                  1,229 mL
   PO:
             TF:
                                                                     50 mL
                                                                     44 mL
   IVF:
                                                                  1,696 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  6,040 mL
                                                                  1,460 mL
   Urine:
                                                                  6,040 mL
                                                                  1,260 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,191 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 514 (514 - 514) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 95%
   ABG: 7.50/30/73.[**Numeric Identifier **]/21/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 183
   Physical Examination
   GEN: Intubated, opens eyes to voice
   Resp: Clear b/L anteriorly. Mild asymmetry in chest expansion.
   CV: RRR, no M/R/G
   ABD: Distended abdomen,  minimal bowel sounds present
   EXT: Good peripheral pulses
   Labs / Radiology
   270 K/uL
   8.1 g/dL
   151 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.8 mEq/L
   30 mg/dL
   106 mEq/L
   139 mEq/L
   23.1 %
   5.2 K/uL
        [image002.jpg]
                             [**2201-7-9**]  05:51 PM
                             [**2201-7-10**]  04:34 AM
                             [**2201-7-10**]  04:38 PM
                             [**2201-7-10**]  07:57 PM
                             [**2201-7-11**]  04:08 AM
                             [**2201-7-11**]  04:39 AM
                             [**2201-7-11**]  09:34 AM
                             [**2201-7-11**]  05:17 PM
                             [**2201-7-12**]  03:56 AM
                             [**2201-7-12**]  06:06 AM
   WBC
   4.4
   3.5
   5.2
   Hct
   23.1
   22.8
   23.1
   Plt
   189
   224
   270
   Cr
   0.9
   0.9
   0.8
   TCO2
   27
   24
   25
   26
   24
   25
   24
   Glucose
   189
   166
   151
   Other labs: PT / PTT / INR:15.0/52.4/1.3, ALT / AST:55/81, Alk Phos / T
   Bili:150/1.2, Amylase / Lipase:26/53, Differential-Neuts:61.0 %,
   Band:1.0 %, Lymph:5.0 %, Mono:33.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:646 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 PERITONITIS (NON-SBP)
 PNEUMONIA, OTHER
 HEPATITIS OTHER
   Started on NAC on [**6-23**], trending down starting [**6-24**]
 BACTEREMIA
   Proteus vulgaris, on meropenem
 PANCREATITIS, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Primary cause, abdominal distention
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Holding ATRA
 PANCYTOPENIA
   Plt > 20, Hct > 25
 NEUTROPENIA
   Febrile neutropenia, on meropenem/vanco/flagyl/micafungin
 TACHYCARDIA, OTHER
   Bolus to keep UOP > 60
 ACUTE PAIN
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy on [**2201-6-12**].
   # Acute Respiratory Failure: likely [**3-2**] abdominal
   inflammation/distension in the setting of chemo. Prolonged intubation
   from [**6-20**] to [**7-11**], now extubated on [**7-11**]. CXR with some ateletasis vs
   fluid in left base
   - monitor respiratory status
   - monitor ABGs if status changes
   - gentle diuresis to help w respiratory status if needed, goal I/O of
   -1 liter (responds to lasix 10mg IV)
   - consider reintubation/tracheostomy if worses
   # Abd distention/Ascites : Unclear etiology, likely initally from
   chemo, possibly c/b GNR bacteremia (translocation) vs.
   microperforation. ? Bowel thickening on CT abdomen. Moderate ascites of
   unclear etiology possibly related to fluid overload, though ddx
   includes portal HTN given chemo-induced hepatitis on admission vs
   hypoalbuminemia vs other. Paracentesis showed transudative bloody fluid
   with no organisms on gram stain.
   - broad-spectrum abx: meropenem ([**6-23**]-), vancomycin ([**7-5**]-), will
   clarify with ID length of course
- paracentesis cx results
   - f/u stool culture, O&P
   - diuresis goal net negative, lasix as needed (see above)
   - KUB to eval for interval change
   - GI recs
   - ID recs
   # Fevers: DDx includes: infection (PNA, GNR bacteremia) vs atelectasis
   vs clot vs drug fever (?voriconazole) vs other. WBC counts returning.
   Mini-BAL negative gram stain and PMNs therefore unlikely PNA. No skin
   ulcers on exam. Negative B-glucan and Aspergillus. C. Diff negative X
   3. UE. U/S demonstrated clots in the left arm. s/p Vanco ([**Date range (1) 6409**]),
   s/p Linezolid ([**Date range (1) 6527**]), s/p Metronidazole ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p
   Micafungin (stopped [**7-1**]), s/p Voriconazole (6/3
 [**7-9**]). Fever curve
   improving, but still has temps.
   - continue broad spectrum abx for now per ID
   - pan-cx if spikes (bl, urine)
   - follow up on cx data
   # Hypertension:  elevated to 150s today, no clear htn hx
   - will monitor and if over 160 will treat with lopresser PRN
   # GNR Bacteremia: Neutropenia resolved as of [**7-1**]. Proteus vulgaris & E
   coli bacteremia per blood cxs on [**6-20**].
   s/p Vanco ([**Date range (1) 6409**]), s/p Linezolid ([**Date range (1) 6527**]), s/p Metronidazole
   ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p Voriconazole (6/3
 [**7-9**]).
   - current abx: Meropenem ([**6-23**]-), Vancomycin ([**7-5**]-)
   - discuss w ID course duration for abx (2 wks post neutropenia?)
   - acyclovir
   - f/u ID recs
   - f/u BMT recs
   # LUE DVT: Shown in left basilic vein on U/S [**7-7**]. Has been held in the
   setting of possible tracheostomy/PEG.
   - heparin gtt, restarted after paracentesis without bolus
   - will start coumadin once clarify if when pt will have PICC (will
   need on right arm)
   # Hepatitis/Pancreatitis: Likely [**3-2**] drug toxicity from chemo
   (?myelotarg). Transaminases in 4000s on presentation, continue to
   improve.
   - resolving
   # Acute Renal failure: Resolved. Cr now stable at ~1.0
   - monitor daily Cr
   # APML: Last chemo [**6-12**]. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - consider 1 pRBC today
   - BMT recs
   ICU Care
   Nutrition:
   TPN without Lipids - [**2201-7-10**] 05:31 PM 83 mL/hour, wil continue to
   bridge
   - speech and swallow eval tomorrow
   - NGT feeds, but did not tolerate, emesis
   Lines:
   Arterial Line - [**2201-6-24**] 12:06 AM, will removed today
   Multi Lumen - [**2201-7-8**] 02:27 PM
   20 Gauge - [**2201-7-10**] 02:52 AM
   - will order PICC line placement of right arm
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   Communication:  Comments: wife
   [**Name (NI) 129**] status: Full code
   Disposition: Will observe in unit today, then transition to floor
   tomorrow. Will c/s PT.
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  49 yo w/AML s/p chemo w/abd inflammation and
   distension contributing to hypotension and resp failure. Continues to
   have low grade fevers.  Dx para yesterday.
   Tmax 100.3-->99.5   BP 140-177/60-90  HR 80-130  RR 20's  Sats 95-98%
   FM/RA  -2L/24 hrs
   Awake, alert, delirius but conversant, NAD
   CTA bilaterally, decreased b/b bs
   S1 S2 reg
   Soft NT, minimal distension, + BS
   Labs: WBC 5.2K, HCT 23 , K+3.8 , Cr 0.8, na 139, glu 151,
          peritoneal fluid: hct 3, wbc >[**2192**], 13% polys, saag < 1.1
   CXR: R IJ, NGT in place, stable, small L effusion small lung volumes
   Micro--stool samples pending, peritoneal fluid cx pending
   Issues include:
     * small bowel inflammation/ascitis
     * fevers (low grade)
     * ue dvt on hep gtt
     * delirium
     * pancytopenia (post chemo), improving
     * apml
   Continues to do well from resp standpoint point post-extubation
   yesterday now tolerating minimal sup O2 and even RA. Remains delirius
   but clearer in thinking today. Agree with plan to continue to monitor
   respiratory status closely. Continue to diurese gently with lasix for
   neg fluid bal. Continues to have low-grade fevers--?  related to abd
   findings, SBP (unlikely given broad antibx), vs other inf source,
   atelecatasis, APML, or clot (on heparin). Continue broad antibx--will
   discuss with ID and BMT regarding length of this course, given ongoing
   bowel inflammation on imaging. GI is following.  Stool studies
   pending.  GI considering pursuing EGD with small bowel enteroscopy
   given low grade fevers. In terms of moderate ascitis on ct-cxs pending
   from dx tap.  Appeared serosangenous and transudative with high # rbcs,
   not enough to send cytology.  Will f/u cx's.   Hep gtt for UE dvt (from
   picc line which is now out). Consider starting coumadin in near future
   (though would hold as may pursue GI bx and place picc).  Start low dose
   anti-htn (metoprolol) if sys remain > 160.  In terms of nutrition, did
   not tolerate TFs yesterday.  Likely ileus. Will continue tpn for
   nutrition and obtain swallow study given prolonged intubation.
   ICU-full code, hep gtt, h2b, a-line, triple lumen ij--will ultimately
   need picc or midline.
   OOB to chair.  PT consult.
   Remainder as per resident note
   Monitor in icu, can likely transfer to floor tomorrow.
   Time spent 45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2201-7-12**] 01:18 PM ------

2201-07-13 08:01:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - para transudative, nothing on gram stain
   - I/O goal -1-2 L - not reaching Lasix 10 mg, 20 mg IV
   - ID: continue ABx course until [**7-16**] (2 weeks post count recovery)
   - PICC by IR in am
   - PT consult
   - TPN until speech and swallow consult
   - Call out in am
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Vancomycin - [**2201-7-12**] 07:51 PM
   Acyclovir - [**2201-7-13**] 02:40 AM
   Meropenem - [**2201-7-13**] 05:49 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2201-7-12**] 09:00 AM
   Heparin Sodium - [**2201-7-12**] 02:00 PM
   Famotidine (Pepcid) - [**2201-7-12**] 07:12 PM
   Furosemide (Lasix) - [**2201-7-12**] 08:04 PM
   Other medications:
   Flowsheet Data as of  [**2201-7-13**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 91 (91 - 113) bpm
   BP: 143/89(102) {121/59(80) - 143/94(106)} mmHg
   RR: 23 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  4,873 mL
                                                                  1,360 mL
   PO:
             TF:
                                                                    254 mL
                                                                    159 mL
   IVF:
                                                                  2,564 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  5,760 mL
                                                                    990 mL
   Urine:
                                                                  5,560 mL
                                                                    990 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -887 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.50/33/87.[**Numeric Identifier 274**]/24/2
   Physical Examination
   GEN: extubated, opens eyes to voice
   Resp: Clear b/L anteriorly. Mild asymmetry in chest expansion.
   CV: RRR, no M/R/G
   ABD: Distended abdomen,  hypoactive bowel sounds present
   EXT: Good peripheral pulses
   Labs / Radiology
   323 K/uL
   9.0 g/dL
   136 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   28 mg/dL
   103 mEq/L
   139 mEq/L
   25.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2201-7-10**]  04:38 PM
                             [**2201-7-10**]  07:57 PM
                             [**2201-7-11**]  04:08 AM
                             [**2201-7-11**]  04:39 AM
                             [**2201-7-11**]  09:34 AM
                             [**2201-7-11**]  05:17 PM
                             [**2201-7-12**]  03:56 AM
                             [**2201-7-12**]  06:06 AM
                             [**2201-7-12**]  01:47 PM
                             [**2201-7-13**]  04:14 AM
   WBC
   3.5
   5.2
   6.0
   Hct
   22.8
   23.1
   25.9
   Plt
   [**Telephone/Fax (3) 6672**]
   Cr
   0.9
   0.8
   0.8
   TCO2
   24
   25
   26
   24
   25
   24
   27
   Glucose
   166
   151
   136
   Other labs: PT / PTT / INR:14.9/60.6/1.3, ALT / AST:65/83, Alk Phos / T
   Bili:166/1.5, Amylase / Lipase:26/53, Differential-Neuts:67.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:26.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:671 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy on [**2201-6-12**].
   # Acute Respiratory Failure: likely [**3-2**] abdominal
   inflammation/distension in the setting of chemo. Prolonged intubation
   from [**6-20**] to [**7-11**], extubated on [**7-11**]. CXR with some ateletasis vs fluid
   in left base
   - monitor respiratory status
   - monitor ABGs if status changes
   - gentle diuresis to help w respiratory status if needed, goal I/O of
   -1 liter (responds to lasix 10mg IV)
   - consider reintubation/tracheostomy if worses
   # Abd distention/Ascites : Unclear etiology, likely initally from
   chemo, possibly c/b GNR bacteremia (translocation) vs.
   microperforation. ? Bowel thickening on CT abdomen. Moderate ascites of
   unclear etiology possibly related to fluid overload, though ddx
   includes portal HTN given chemo-induced hepatitis on admission vs
   hypoalbuminemia vs other. Paracentesis showed transudative bloody fluid
   with no organisms on gram stain.
   - broad-spectrum abx: meropenem ([**6-23**]-), vancomycin ([**7-5**]-),
- paracentesis cx results
   - f/u stool culture, O&P
   - diuresis goal net negative, lasix as needed (see above)
   - KUB to eval for interval change
   - GI recs
   - ID recs
   # Fevers: DDx includes: infection (PNA, GNR bacteremia) vs atelectasis
   vs clot vs drug fever (?voriconazole) vs other. WBC counts returning.
   Mini-BAL negative gram stain and PMNs therefore unlikely PNA. No skin
   ulcers on exam. Negative B-glucan and Aspergillus. C. Diff negative X
   3. UE. U/S demonstrated clots in the left arm. s/p Vanco ([**Date range (1) 6409**]),
   s/p Linezolid ([**Date range (1) 6527**]), s/p Metronidazole ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p
   Micafungin (stopped [**7-1**]), s/p Voriconazole (6/3
 [**7-9**]). Fever curve
   improving, but still has temps.
   - continue broad spectrum abx for now per ID
   - pan-cx if spikes (bl, urine)
   - follow up on cx data
   # Hypertension:  elevated to 150s today, no clear htn hx
   - will monitor and if over 160 will treat with lopresser PRN
   # GNR Bacteremia: Neutropenia resolved as of [**7-1**]. Proteus vulgaris & E
   coli bacteremia per blood cxs on [**6-20**].
   s/p Vanco ([**Date range (1) 6409**]), s/p Linezolid ([**Date range (1) 6527**]), s/p Metronidazole
   ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p Voriconazole (6/3
 [**7-9**]).
   - current abx: Meropenem ([**6-23**]-), Vancomycin ([**7-5**]-)
   - discuss w ID course duration for abx (2 wks post neutropenia?)
   - acyclovir
   - f/u ID recs
   - f/u BMT recs
   # LUE DVT: Shown in left basilic vein on U/S [**7-7**]. Has been held in the
   setting of possible tracheostomy/PEG.
   - heparin gtt, restarted after paracentesis without bolus
   - will start coumadin once clarify if when pt will have PICC (will
   need on right arm)
   # Hepatitis/Pancreatitis: Likely [**3-2**] drug toxicity from chemo
   (?myelotarg). Transaminases in 4000s on presentation, continue to
   improve.
   - resolving
   # Acute Renal failure: Resolved. Cr now stable at ~1.0
   - monitor daily Cr
   # APML: Last chemo [**6-12**]. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - consider 1 pRBC today
   - BMT recs
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2201-7-11**] 07:00 PM 20 mL/hour
   TPN w/ Lipids - [**2201-7-12**] 05:45 PM 88 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2201-7-8**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-07-14 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2201-7-13**] 12:24 PM
   placed in ir
 MULTI LUMEN - STOP [**2201-7-13**] 07:03 PM
   - called out, awaiting bed
   - PICC placed, RIJ d/c'd
   - sp & sw --> ground solids, nectar thick liquids, supervision
   - started on coumadin 5mg for dvt
   - pulled OG tube in PM, not replaced, will attempt PO intake
   Allergies:
   Penicillins
   Hives; Shortnes
   Ciprofloxacin
   Hepatic toxicit
   Last dose of Antibiotics:
   Acyclovir - [**2201-7-13**] 06:00 PM
   Vancomycin - [**2201-7-13**] 08:19 PM
   Meropenem - [**2201-7-14**] 06:27 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2201-7-13**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-7-14**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 95 (87 - 132) bpm
   BP: 129/81(92) {114/60(72) - 181/119(132)} mmHg
   RR: 23 (15 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91 kg (admission): 88.6 kg
   Height: 70 Inch
             Total In:
                                                                  4,297 mL
                                                                    297 mL
   PO:
                                                                    200 mL
                                                                    100 mL
   TF:
                                                                    594 mL
   IVF:
                                                                  1,874 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  3,670 mL
                                                                    540 mL
   Urine:
                                                                  3,670 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    627 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   GEN: extubated, opens eyes to voice
   Resp: Clear b/L anteriorly. Mild asymmetry in chest expansion.
   CV: RRR, no M/R/G
   ABD: Distended abdomen,  hypoactive bowel sounds present
   EXT: Good peripheral pulses
   Labs / Radiology
   340 K/uL
   9.1 g/dL
   107 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   28 mg/dL
   100 mEq/L
   135 mEq/L
   25.7 %
   6.0 K/uL
        [image002.jpg]
                             [**2201-7-10**]  07:57 PM
                             [**2201-7-11**]  04:08 AM
                             [**2201-7-11**]  04:39 AM
                             [**2201-7-11**]  09:34 AM
                             [**2201-7-11**]  05:17 PM
                             [**2201-7-12**]  03:56 AM
                             [**2201-7-12**]  06:06 AM
                             [**2201-7-12**]  01:47 PM
                             [**2201-7-13**]  04:14 AM
                             [**2201-7-14**]  04:26 AM
   WBC
   3.5
   5.2
   6.0
   6.0
   Hct
   22.8
   23.1
   25.9
   25.7
   Plt
   [**Telephone/Fax (3) 6697**]40
   Cr
   0.9
   0.8
   0.8
   0.9
   TCO2
   25
   26
   24
   25
   24
   27
   Glucose
   166
   151
   136
   107
   Other labs: PT / PTT / INR:15.6/74.5/1.4, ALT / AST:65/83, Alk Phos / T
   Bili:166/1.5, Amylase / Lipase:26/53, Differential-Neuts:67.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:26.0 %, Eos:0.0 %, Fibrinogen:487 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:671 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   49M w APML admitted w respiratory failure from severe abdominal
   distention in the setting of chemotherapy on [**2201-6-12**].
   # Acute Respiratory Failure: likely [**3-2**] abdominal
   inflammation/distension in the setting of chemo. Prolonged intubation
   from [**6-20**] to [**7-11**], extubated on [**7-11**].
   - monitor respiratory status
   - monitor ABGs if status changes
   - gentle diuresis to help w respiratory status if needed, goal I/O of
   -1 liter (responds to lasix 10mg IV)
   - consider reintubation/tracheostomy if worses
   # Abd distention/Ascites : Unclear etiology, likely initially from
   chemo, possibly c/b GNR bacteremia (translocation) vs.
   microperforation. ? Bowel thickening on CT abdomen. Moderate ascites of
   unclear etiology possibly related to fluid overload, though ddx
   includes portal HTN given chemo-induced hepatitis on admission vs
   hypoalbuminemia vs other. Paracentesis showed transudative bloody fluid
   with no organisms on gram stain.
   - broad-spectrum abx: meropenem ([**Date range (1) 6677**]), vancomycin ([**Date range (1) 6678**]),
- f/u paracentesis cx results
   - f/u stool culture, O&P
   - diuresis goal net negative, lasix as needed (see above)
   - GI recs
   - ID recs
   # Fevers: DDx includes: infection (PNA, GNR bacteremia) vs atelectasis
   vs clot vs drug fever (?voriconazole) vs other. WBC counts returning.
   Mini-BAL negative gram stain and PMNs therefore unlikely PNA. No skin
   ulcers on exam. Negative B-glucan and Aspergillus. C. Diff negative X
   3. UE. U/S demonstrated clots in the left arm. s/p Vanco ([**Date range (1) 6409**]),
   s/p Linezolid ([**Date range (1) 6527**]), s/p Metronidazole ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p
   Micafungin (stopped [**7-1**]), s/p Voriconazole (6/3
 [**7-9**]). Fever curve
   improving, but still has temps.
   - continue broad spectrum abx for now per ID
   - pan-cx if spikes (bl, urine)
   - follow up on cx data
   # GNR Bacteremia: Neutropenia resolved as of [**7-1**]. Proteus vulgaris & E
   coli bacteremia per blood cxs on [**6-20**].
   s/p Vanco ([**Date range (1) 6409**], [**Date range (1) 6678**]), s/p Linezolid ([**Date range (1) 6527**]), s/p
   Metronidazole ([**Date range (1) 6291**], [**Date range (1) 6410**]), s/p Voriconazole (6/3
 [**7-9**]).
   - continue abx: Meropenem ([**Date range (1) 6677**])., Vancomycin ([**Date range (1) 6678**])
   - acyclovir
   - f/u ID recs
   - f/u BMT recs
   # LUE DVT: Shown in left basilic vein on U/S [**7-7**]. Has been held in the
   setting of possible tracheostomy/PEG.
   - heparin gtt, restarted after paracentesis without bolus
   - start Coumadin after PICC placed
   # Hepatitis/Pancreatitis: Likely [**3-2**] drug toxicity from chemo
   (?myelotarg). Transaminases in 4000s on presentation, continue to
   improve.
   - resolving
   # Acute Renal failure: Resolved. Cr now stable at ~1.0
   - monitor daily Cr
   # APML: Last chemo [**6-12**]. Requiring PLTs frequently. WBC starting to
   increase.
   - plt goal is >30, Hct goal is >25 per BMT
   - consider 1 pRBC today
   - BMT recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-7-13**] 12:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: